2193-12-26 06:13:00 Physician Resident Progress Note
Chief Complaint: Fevers, shortness of breath
   24 Hour Events:
 INVASIVE VENTILATION - START [**2193-12-25**] 01:17 PM
 ARTERIAL LINE - START [**2193-12-25**] 03:01 PM
 MULTI LUMEN - START [**2193-12-25**] 03:02 PM
 BRONCHOSCOPY - At [**2193-12-25**] 04:45 PM
   LLL BAL done sample sent to Lab.
 BLOOD CULTURED - At [**2193-12-25**] 06:45 PM
   Bronch:
   Hemorrhagic airways on the L side
   Urine output decreased: gave 500cc bolus NS x5 -UO still 30cc/hour
   Urine legionella antigen negative
   Levophed weaned off
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2193-12-25**] 05:45 PM
   Vancomycin - [**2193-12-25**] 06:00 PM
   Levofloxacin - [**2193-12-25**] 07:00 PM
   Infusions:
   Midazolam (Versed) - 4 mg/hour
   Fentanyl - 75 mcg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2193-12-26**] 12:00 AM
   Pantoprazole (Protonix) - [**2193-12-26**] 02:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2193-12-26**] 06:13 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.5
C (99.5
   Tcurrent: 37
C (98.6
   HR: 70 (65 - 74) bpm
   BP: 102/63(78) {94/49(65) - 131/78(101)} mmHg
   RR: 22 (15 - 28) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
    CVP: 16 (1 - 16)mmHg
   Mixed Venous O2% Sat: 69 - 69
   Total In:
                                                                  2,067 mL
                                                                  1,143 mL
   PO:
   TF:
   IVF:
                                                                  2,067 mL
                                                                  1,143 mL
   Blood products:
   Total out:
                                                                    600 mL
                                                                    165 mL
   Urine:
                                                                    600 mL
                                                                    165 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,467 mL
                                                                    978 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 207 (207 - 207) mL
   RR (Set): 22
   RR (Spontaneous): 0
   PEEP: 15 cmH2O
   FiO2: 80%
   PIP: 32 cmH2O
   Plateau: 26 cmH2O
   SpO2: 98%
   ABG: 7.40/42/98.[**Numeric Identifier 500**]/25/0
   Ve: 9.7 L/min
   PaO2 / FiO2: 123
   Physical Examination
   Gen: Intubated and sedated
   HEENT: NCAT. PERRL. ET tube in place. No LAD.
   CV: RRR. No murmurs.
   Resp: Rhonchi diffusely on anterior exam. No wheezing.
   Abdomen: Soft, NT, ND. No masses. No rebound or guarding.
   Extremities: WWP. No LE edema.
   Labs / Radiology
   220 K/uL
   9.8 g/dL
   90 mg/dL
   0.4 mg/dL
   25 mEq/L
   4.2 mEq/L
   8 mg/dL
   116 mEq/L
   144 mEq/L
   30.7 %
   5.1 K/uL
        [image002.jpg] Culture data negative to date
   Urine legionella antigen negative
                            [**2193-12-25**]  01:45 PM
                            [**2193-12-25**]  02:31 PM
                            [**2193-12-25**]  05:11 PM
                            [**2193-12-26**]  02:52 AM
                            [**2193-12-26**]  02:57 AM
                            [**2193-12-26**]  05:11 AM
   WBC
   6.7
   5.1
   Hct
   33.4
   30.7
   Plt
   241
   220
   Cr
   0.6
   0.4
   TCO2
   27
   26
   31
   27
   Glucose
   157
   90
   Other labs: PT / PTT / INR:12.7/35.0/1.1, ALT / AST:27/44, Alk Phos / T
   Bili:75/0.2, Lactic Acid:1.9 mmol/L, LDH:559 IU/L, Ca++:8.4 mg/dL,
   Mg++:2.0 mg/dL, PO4:2.6 mg/dL
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
   ICU Care
   Nutrition:
   33 yo F with a history of Tetralogy of Fallot s/p repair at age
   6months, s/p RVOT aneurysm repair in [**2182**], who is transferred from OSH
   with multilobar pneumonia, hypoxemic respiratory failure, and
   hypotension.
   #  Hypoxemic respiratory failure: Patient has hypoxemia despite FiO2 of
   100% and PEEP of 12, concerning for intracardiac or intrapulmonary
   shunt physiology. Likely [**3-18**] severe multilobar pneumonia see on OSH
   chest CT. Clinically the patient does not appear fluid overloaded, and
   CXR shows no obvious effusions. Of note, patient has daughter who had
   confirmed [**Name (NI) 9259**] 2 weeks prior. Bronchoscopy shows hemorrhagic airways on
   the L side. Urine legionella antigen negative.  Patient having frothy
   secretions this morning, concerning for worsening pulmonary edema.
   -f/u BAL cultures
   -Vanc, Cefepime, Levoflox -day 1= [**12-25**]
   -continue tamiflu empirically
   -repeat influenza antigen
   -droplet precautions
   -obtain echo with bubble study to eval for intracardiac shunt
   -position patient with R lung down
   -goal I/Os even to negative
   -increase sedation
   # Hypotension: [**3-18**] sedation vs septic physiology.  Patient weaned off
   of levophed overnight. Sedation switched to fentanyl/versed. BP about
   100/55, so continues to be hypotensive. UO about 30cc/hour, despite IV
   fluid boluses. However frothy secretions concerning for pulmonary
   edema. Would hold off on further IV fluids.
   -continue sedation
   -BCxs, UA, UCx
   -I/O goal even to negative
   -would consider levophed for MAP<55
   -monitor perfusion with CVP, lactate, UO, and MAPs
   # Tetrology of Fallot s/p repair, RVOT aneurysm s/p repair.
   -repeat echo with bubble study
   -cardiology consult
   -monitor on telemetry
   .
   # FEN: No IVFs / replete lytes prn / NPO -Nutrition consult
   # PPX: PPI, heparin SQ, bowel regimen
   # ACCESS: PIV, R IJ, A-line
   # CODE:  FULL
   # CONTACT:  [**Name (NI) 443**] [**Name (NI) **] [**Telephone/Fax (1) 9263**]
   # DISPO: ICU
   Glycemic Control:
   Lines:
   Arterial Line - [**2193-12-25**] 03:01 PM
   Multi Lumen - [**2193-12-25**] 03:02 PM
   20 Gauge - [**2193-12-25**] 03:02 PM
   Prophylaxis:
   DVT: heparin SQ
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: FULL
   Disposition:

2193-12-26 09:22:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   - FiO2 weaned to 80%
   BRONCHOSCOPY /BAL performed
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2193-12-25**] 05:45 PM
   Levofloxacin - [**2193-12-25**] 07:00 PM
   Vancomycin - [**2193-12-26**] 08:00 AM
   Infusions:
   Midazolam (Versed) - 4 mg/hour
   Fentanyl - 75 mcg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2193-12-26**] 02:00 AM
   Heparin Sodium (Prophylaxis) - [**2193-12-26**] 08:00 AM
   Other medications:
   Vanco, Levo, Tamiflu, Albuterol/Atrovent, Docusate, PPI, SQ heparin,
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2193-12-26**] 09:22 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.5
C (99.5
   Tcurrent: 36.3
C (97.4
   HR: 73 (65 - 74) bpm
   BP: 99/56(71) {94/49(65) - 131/78(101)} mmHg
   RR: 22 (15 - 28) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   CVP: 16 (1 - 16)mmHg
   Mixed Venous O2% Sat: 69 - 69
   Total In:
                                                                  2,067 mL
                                                                  1,410 mL
   PO:
   TF:
   IVF:
                                                                  2,067 mL
                                                                  1,410 mL
   Blood products:
   Total out:
                                                                    600 mL
                                                                    260 mL
   Urine:
                                                                    600 mL
                                                                    260 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,467 mL
                                                                  1,150 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 207 (207 - 207) mL
   RR (Set): 22
   RR (Spontaneous): 2
   PEEP: 15 cmH2O
   FiO2: 80%
   RSBI Deferred: PEEP > 10, FiO2 > 60%
   PIP: 36 cmH2O
   Plateau: 26 cmH2O
   SpO2: 96%
   ABG: 7.40/42/98.[**Numeric Identifier 500**]/25/0
   Ve: 9.8 L/min
   PaO2 / FiO2: 123
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Crackles : , Diminished: ,
   Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   9.8 g/dL
   220 K/uL
   90 mg/dL
   0.4 mg/dL
   25 mEq/L
   4.2 mEq/L
   8 mg/dL
   116 mEq/L
   144 mEq/L
   30.7 %
   5.1 K/uL
        [image002.jpg]
                            [**2193-12-25**]  01:45 PM
                            [**2193-12-25**]  02:31 PM
                            [**2193-12-25**]  05:11 PM
                            [**2193-12-26**]  02:52 AM
                            [**2193-12-26**]  02:57 AM
                            [**2193-12-26**]  05:11 AM
   WBC
   6.7
   5.1
   Hct
   33.4
   30.7
   Plt
   241
   220
   Cr
   0.6
   0.4
   TCO2
   27
   26
   31
   27
   Glucose
   157
   90
   Other labs: PT / PTT / INR:12.7/35.0/1.1, ALT / AST:27/44, Alk Phos / T
   Bili:75/0.2, Lactic Acid:1.9 mmol/L, LDH:559 IU/L, Ca++:8.4 mg/dL,
   Mg++:2.0 mg/dL, PO4:2.6 mg/dL
   Imaging: CXR - Worsening infiltrates.
   Microbiology: BAL, Blood, Fluid, Flu pending.
   Assessment and Plan
   33 yo F with a history of Tetralogy of Fallot s/p repair at age
   6months, s/p RVOT aneurysm repair in [**2182**], and ICD for NSVT who is
   transferred from OSH with severe multilobar pneumonia (L>R), hypoxemic
   respiratory failure, and hypotension requiring pressors.
   # Hypoxemic respiratory failure:  Likely [**3-18**] to severe PNA.
   Significant shunt component given PaO2 of 74 on 100% FiO2 and PEEP of
   12, probably due to consolidations, but intracardiac shunt cannot be
   excluded.
   - F/u BAL cultures, urine legionella, flu antigen
   - Continue Vanc, Cefepime, Levoflox
 Day [**3-30**]
   - Empiric tamiflu until results are back, droplet precautions
   - TTE with bubble study to eval for intracardiac shunt
   - ARDSnet ventilation, position patient with R lung down, may need more
   aggressive salvage techniques (esophageal balloon, ECMO, etc)
   - Increase sedation significantly
   - Diuresis
   # Hypotension: Likely [**3-18**] septic physiology and propofol.  SvO2 of 69
   argues against cardiac cause.  Now off pressors.
   - On versed/Fentanyl
   - Limit IVF given cardiac status
   - F/U pending cultures
   # Tetrology of Fallot: S/p repair, RVOT aneurysm s/p repair, ICD
   - Repeat echo
   - Monitor on telemetry
   - Cardiology consult
   ICU Care
   Nutrition:
   Comments: NPO - Nutrition consult this am.
   Glycemic Control:
   Lines:
   Arterial Line - [**2193-12-25**] 03:01 PM
   Multi Lumen - [**2193-12-25**] 03:02 PM
   20 Gauge - [**2193-12-25**] 03:02 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , Family
   meeting held , ICU consent signed Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 50 minutes
   Patient is critically ill

2193-12-27 06:54:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 TRANSTHORACIC ECHO - At [**2193-12-26**] 10:15 AM
   Echo with bubble study
 EKG - At [**2193-12-26**] 12:00 PM
 FEVER - 102.1
F - [**2193-12-26**] 04:00 PM
   ECHO:  Tetralogy of Fallot s/p surgical repair. Dilated right ventricle
   with mild global systolic dysfunction. Normal left ventricular cavity
   size and systolic function. Mild to moderate mitral regurgitation.
   Moderate tricuspid regurgitation. Severe pulmonic regurgitation.
   Cards: no recs
   CVP 8-10 overnight
   Levophed started yesterday [**3-18**] poor Urine output.  Vasopressin then
   started with improvement in MAP to 70, Urine output 30cc per hour.
   Flu swab sent again
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2193-12-26**] 06:00 PM
   Vancomycin - [**2193-12-26**] 08:00 PM
   Cefipime - [**2193-12-26**] 10:00 PM
   Infusions:
   Norepinephrine - 0.03 mcg/Kg/min
   Midazolam (Versed) - 6 mg/hour
   Vasopressin - 2.4 units/hour
   Fentanyl - 200 mcg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2193-12-26**] 08:00 AM
   Pantoprazole (Protonix) - [**2193-12-26**] 02:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2193-12-27**] 06:51 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.9
C (102.1
   Tcurrent: 37.4
C (99.4
   HR: 83 (68 - 91) bpm
   BP: 100/63(79) {92/43(59) - 133/69(91)} mmHg
   RR: 28 (21 - 28) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 64 Inch
    CVP: 10 (10 - 16)mmHg
   Total In:
                                                                  2,648 mL
                                                                    744 mL
   PO:
   TF:
                                                                    172 mL
                                                                    325 mL
   IVF:
                                                                  2,476 mL
                                                                    319 mL
   Blood products:
   Total out:
                                                                    650 mL
                                                                    216 mL
   Urine:
                                                                    650 mL
                                                                    216 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,998 mL
                                                                    528 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 380 (380 - 450) mL
   RR (Set): 28
   RR (Spontaneous): 0
   PEEP: 20 cmH2O
   FiO2: 80%
   RSBI Deferred: PEEP > 10, FiO2 > 60%
   PIP: 34 cmH2O
   Plateau: 31 cmH2O
   Compliance: 34.5 cmH2O/mL
   SpO2: 93%
   ABG: 7.38/43/111/24/0
   Ve: 10.2 L/min
   PaO2 / FiO2: 159
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   317 K/uL
   10.0 g/dL
   147 mg/dL
   0.5 mg/dL
   24 mEq/L
   4.5 mEq/L
   14 mg/dL
   112 mEq/L
   144 mEq/L
   29.9 %
   8.8 K/uL
        [image002.jpg]
                            [**2193-12-25**]  05:11 PM
                            [**2193-12-26**]  02:52 AM
                            [**2193-12-26**]  02:57 AM
                            [**2193-12-26**]  05:11 AM
                            [**2193-12-26**]  09:38 AM
                            [**2193-12-26**]  10:31 AM
                            [**2193-12-26**]  02:20 PM
                            [**2193-12-26**]  05:48 PM
                            [**2193-12-27**]  03:04 AM
                            [**2193-12-27**]  03:08 AM
   WBC
   5.1
   8.8
   Hct
   30.7
   29.9
   Plt
   220
   317
   Cr
   0.4
   0.5
   TCO2
   26
   31
   27
   26
   26
   27
   27
   26
   Glucose
   90
   147
   Other labs: PT / PTT / INR:14.2/33.1/1.2, ALT / AST:54/89, Alk Phos / T
   Bili:92/0.8, Differential-Neuts:82.9 %, Lymph:12.7 %, Mono:3.9 %,
   Eos:0.4 %, Lactic Acid:1.1 mmol/L, LDH:559 IU/L, Ca++:9.1 mg/dL,
   Mg++:2.1 mg/dL, PO4:3.2 mg/dL
   Assessment and Plan
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
 HYPOTENSION (NOT SHOCK)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
   33 yo F with a history of Tetralogy of Fallot s/p repair at age
   6months, s/p RVOT aneurysm repair in [**2182**], who is transferred from OSH
   with multilobar pneumonia, hypoxemic respiratory failure, and
   hypotension.
   #  Hypoxemic respiratory failure: Patient has hypoxemia despite FiO2 of
   100% and PEEP of 12, concerning for intracardiac or intrapulmonary
   shunt physiology. Likely [**3-18**] severe multilobar pneumonia see on OSH
   chest CT. Clinically the patient does not appear fluid overloaded, and
   CXR shows no obvious effusions. Of note, patient has daughter who had
   confirmed [**Name (NI) 9259**] 2 weeks prior. Bronchoscopy shows hemorrhagic airways on
   the L side. Urine legionella antigen negative.  Patient having frothy
   secretions this morning, concerning for worsening pulmonary edema.
   -f/u BAL cultures
   -Vanc, Cefepime, Levoflox -day 1= [**12-25**]
   -continue tamiflu empirically
   -repeat influenza antigen
   -droplet precautions
   -obtain echo with bubble study to eval for intracardiac shunt
   -position patient with R lung down
   -goal I/Os even to negative
   -increase sedation
   # Hypotension: [**3-18**] sedation vs septic physiology.  Patient weaned off
   of levophed overnight. Sedation switched to fentanyl/versed. BP about
   100/55, so continues to be hypotensive. UO about 30cc/hour, despite IV
   fluid boluses. However frothy secretions concerning for pulmonary
   edema. Would hold off on further IV fluids.
   -continue sedation
   -BCxs, UA, UCx
   -I/O goal even to negative
   -would consider levophed for MAP<55
   -monitor perfusion with CVP, lactate, UO, and MAPs
   # Tetrology of Fallot s/p repair, RVOT aneurysm s/p repair.
   -repeat echo with bubble study
   -cardiology consult
   -monitor on telemetry
   .
   # FEN: No IVFs / replete lytes prn / NPO -Nutrition consult
   # PPX: PPI, heparin SQ, bowel regimen
   # ACCESS: PIV, R IJ, A-line
   # CODE:  FULL
   # CONTACT:  [**Name (NI) 443**] [**Name (NI) **] [**Telephone/Fax (1) 9263**]
   # DISPO: ICU
   Glycemic Control:
   Lines:
   Arterial Line - [**2193-12-25**] 03:01 PM
   Multi Lumen - [**2193-12-25**] 03:02 PM
   20 Gauge - [**2193-12-25**] 03:02 PM
   Prophylaxis:
   DVT: heparin SQ
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: FULL
   Disposition:
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2193-12-27**] 01:54 AM 60 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2193-12-25**] 03:01 PM
   Multi Lumen - [**2193-12-25**] 03:02 PM
   20 Gauge - [**2193-12-25**] 03:02 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2193-12-27 09:13:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   - TTE - Tet of fallot with surgical repair, no intracardiac shunt, EF >
   55%, mild-moderate valvular disease, severe pulmonic regurg
   - Cards consult
   - Hypotension - CVP 8-10 overnight. Levophed started [**3-18**] poor anuria.
   Vasopressin added.
   - FiO2 weaned to 70%
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2193-12-26**] 06:00 PM
   Vancomycin - [**2193-12-26**] 08:00 PM
   Cefipime - [**2193-12-26**] 10:00 PM
   Infusions:
   Norepinephrine - 0.03 mcg/Kg/min
   Midazolam (Versed) - 6 mg/hour
   Vasopressin - 2.4 units/hour
   Fentanyl - 200 mcg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2193-12-26**] 02:00 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2193-12-27**] 09:12 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.9
C (102.1
   Tcurrent: 37.4
C (99.4
   HR: 92 (73 - 92) bpm
   BP: 105/66(81) {92/43(59) - 133/69(91)} mmHg
   RR: 28 (21 - 28) insp/min
   SpO2: 91%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 64 Inch
   CVP: 10 (10 - 16)mmHg
   Total In:
                                                                  2,648 mL
                                                                  1,086 mL
   PO:
   TF:
                                                                    172 mL
                                                                    463 mL
   IVF:
                                                                  2,476 mL
                                                                    423 mL
   Blood products:
   Total out:
                                                                    650 mL
                                                                    241 mL
   Urine:
                                                                    650 mL
                                                                    241 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,998 mL
                                                                    845 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 380 (380 - 380) mL
   RR (Set): 28
   RR (Spontaneous): 0
   PEEP: 20 cmH2O
   FiO2: 70%
   RSBI Deferred: PEEP > 10, FiO2 > 60%
   PIP: 33 cmH2O
   Plateau: 30 cmH2O
   Compliance: 38 cmH2O/mL
   SpO2: 91%
   ABG: 7.37/46/64/24/0
   Ve: 10.9 L/min
   PaO2 / FiO2: 91
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Crackles : , Diminished: ,
   Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   10.0 g/dL
   317 K/uL
   147 mg/dL
   0.5 mg/dL
   24 mEq/L
   4.5 mEq/L
   14 mg/dL
   112 mEq/L
   144 mEq/L
   29.9 %
   8.8 K/uL
        [image002.jpg]
                            [**2193-12-26**]  02:52 AM
                            [**2193-12-26**]  02:57 AM
                            [**2193-12-26**]  05:11 AM
                            [**2193-12-26**]  09:38 AM
                            [**2193-12-26**]  10:31 AM
                            [**2193-12-26**]  02:20 PM
                            [**2193-12-26**]  05:48 PM
                            [**2193-12-27**]  03:04 AM
                            [**2193-12-27**]  03:08 AM
                            [**2193-12-27**]  07:31 AM
   WBC
   5.1
   8.8
   Hct
   30.7
   29.9
   Plt
   220
   317
   Cr
   0.4
   0.5
   TCO2
   31
   27
   26
   26
   27
   27
   26
   28
   Glucose
   90
   147
   Other labs: PT / PTT / INR:14.2/33.1/1.2, ALT / AST:54/89, Alk Phos / T
   Bili:92/0.8, Differential-Neuts:82.9 %, Lymph:12.7 %, Mono:3.9 %,
   Eos:0.4 %, Lactic Acid:1.4 mmol/L, LDH:559 IU/L, Ca++:9.1 mg/dL,
   Mg++:2.1 mg/dL, PO4:3.2 mg/dL
   Imaging: CXR - Worsening bilateral infiltrates. Tubes/lines in place.
   Microbiology: Urine negative. BAL cx/ Blood cx/ Viral swabs  data
   pending.
   Assessment and Plan
   33 yo F with a history of Tetralogy of Fallot s/p repair at age
   6months, s/p RVOT aneurysm repair in [**2182**], and ICD for NSVT who is
   transferred from OSH with severe multilobar pneumonia (L>R), hypoxemic
   respiratory failure, and hypotension requiring pressors.
   # Hypoxemic respiratory failure:  Likely [**3-18**] to severe PNA.
   Significant shunt component given PaO2 of 74 on 100% FiO2 and PEEP of
   12, probably due to consolidations.  No evidence of intracardaic shunt
   on TTE.
   - F/u BAL cultures, flu antigen
   - Continue Vanc, Cefepime, Levoflox
 Day [**4-27**]
   - Empiric tamiflu until results are back, droplet precautions
   - ARDSnet ventilation, position patient with R lung down.  Plan for
   esophageal balloon today.  [**Month (only) 11**] need more aggressive salvage techniques
   (ihaled NO, ECMO, etc)
   - Increase sedation significantly
   Will perform therapeutic bronchoscopy today to help with secretion
   retreival
   # Hypotension: Likely [**3-18**] septic physiology.  Initial SvO2 of 69 and
   TTE argues against cardiac cause.  Vitileo SVV 7.
   - Continue levophed and vasopressin
   - Goal MAP > 65, UOP > 50 cc/hr
   - F/U pending cultures
   # Tetrology of Fallot: S/p repair, RVOT aneurysm s/p repair, ICD
   - Monitor on telemetry
   - Appreciate cardiology consult
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2193-12-27**] 06:49 AM 60 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2193-12-25**] 03:01 PM
   Multi Lumen - [**2193-12-25**] 03:02 PM
   20 Gauge - [**2193-12-25**] 03:02 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Need for restraints reviewed
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2193-12-28 07:22:00 Physician Attending Progress Note
Chief Complaint: PNA, respiratory failure
   HPI:
   24 Hour Events:
 BRONCHOSCOPY - At [**2193-12-27**] 04:45 PM
 watery secretions
 FEVER - 101.3
F - [**2193-12-27**] 12:00 PM
   - Esophageal balloon placed, inspiratory pressures ~[**11-24**]
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2193-12-27**] 06:00 PM
   Vancomycin - [**2193-12-27**] 08:00 PM
   Cefipime - [**2193-12-27**] 10:00 PM
   Infusions:
   Vasopressin - 2.4 units/hour
   Norepinephrine - 0.03 mcg/Kg/min
   Fentanyl - 250 mcg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2193-12-28**] 12:35 AM
   Pantoprazole (Protonix) - [**2193-12-28**] 03:08 AM
   Other medications:
   Vancomycin, Levofloxacin, Cefepime, Tamiflu, Albuterol
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2193-12-28**] 07:21 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.5
C (101.3
   Tcurrent: 38
C (100.4
   HR: 79 (76 - 91) bpm
   BP: 100/57(74) {93/54(72) - 117/68(87)} mmHg
   RR: 26 (24 - 28) insp/min
   SpO2: 88%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 64 Inch
   CVP: 9 (6 - 11)mmHg
   Total In:
                                                                  2,830 mL
                                                                    618 mL
   PO:
   TF:
                                                                    597 mL
                                                                    220 mL
   IVF:
                                                                  1,954 mL
                                                                    399 mL
   Blood products:
   Total out:
                                                                    923 mL
                                                                    260 mL
   Urine:
                                                                    813 mL
                                                                    260 mL
   NG:
                                                                    110 mL
   Stool:
   Drains:
   Balance:
                                                                  1,907 mL
                                                                    359 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 420 (380 - 420) mL
   RR (Set): 26
   RR (Spontaneous): 0
   PEEP: 20 cmH2O
   FiO2: 60%
   RSBI Deferred: PEEP > 10, FiO2 > 60%
   PIP: 35 cmH2O
   Plateau: 33 cmH2O
   Compliance: 33.9 cmH2O/mL
   SpO2: 88%
   ABG: 7.43/42/209/27/3
   Ve: 11.5 L/min
   PaO2 / FiO2: 348
   Physical Examination
   Gen: Heavily sedated, NAD
   Head, Ears, Nose, Throat: MMM, Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal), RRR
   Respiratory / Chest: (Breath Sounds: Crackles, Markedly Diminished on R
   )
   Skin:  No rashes, normal nails
   Ext: Warm, no CCE
   Neurologic: Heavily sedated, minimal response to sternal rub
   Labs / Radiology
   9.6 g/dL
   379 K/uL
   146 mg/dL
   0.5 mg/dL
   27 mEq/L
   4.1 mEq/L
   14 mg/dL
   109 mEq/L
   142 mEq/L
   29.7 %
   9.2 K/uL
        [image002.jpg]
                            [**2193-12-26**]  10:31 AM
                            [**2193-12-26**]  02:20 PM
                            [**2193-12-26**]  05:48 PM
                            [**2193-12-27**]  03:04 AM
                            [**2193-12-27**]  03:08 AM
                            [**2193-12-27**]  07:31 AM
                            [**2193-12-27**]  12:27 PM
                            [**2193-12-27**]  08:14 PM
                            [**2193-12-28**]  03:35 AM
                            [**2193-12-28**]  03:51 AM
   WBC
   8.8
   8.5
   9.2
   Hct
   29.9
   30.6
   29.7
   Plt
   [**Telephone/Fax (3) 9303**]
   Cr
   0.5
   0.5
   0.5
   TCO2
   26
   27
   27
   26
   28
   28
   29
   Glucose
   147
   148
   146
   Other labs: PT / PTT / INR:15.2/30.5/1.3, ALT / AST:51/59, Alk Phos / T
   Bili:79/0.6, Differential-Neuts:82.9 %, Lymph:12.7 %, Mono:3.9 %,
   Eos:0.4 %, Lactic Acid:1.5 mmol/L, LDH:559 IU/L, Ca++:9.7 mg/dL,
   Mg++:2.4 mg/dL, PO4:1.7 mg/dL
   Flu swab
 Negative
   Assessment and Plan
   33 yo F with a history of Tetralogy of Fallot s/p repair at age
   6months, s/p RVOT aneurysm repair in [**2182**], and ICD for NSVT who is
   transferred from OSH with severe multilobar pneumonia (L>R), hypoxemic
   respiratory failure, and hypotension requiring pressors.
   # Hypoxemic respiratory failure:  Likely [**3-18**] to severe PNA.
   Significant shunt component given PaO2 of 74 on 100% FiO2 and PEEP of
   12, probably due to consolidations.  No evidence of intracardaic shunt
   on TTE.
   - F/u BAL cultures.  Flu swab negative at [**Hospital1 1**]
   - Continue Vanc, Cefepime, Levoflox
 Day [**5-28**]
   - Empiric tamiflu (day [**5-19**])
   - ARDSnet ventilation, position patient with R lung down.  Esophageal
   balloon showed reasonable trans-pulmonary pressures.  [**Month (only) 11**] need more
   aggressive salvage techniques (inhaled NO, ECMO, etc)
   - Increase sedation significantly, consider pulling back if FiO2
   continues to decrease
   - Bronchoscopy [**12-27**] showed minimal secretions, edematous airways
   # Hypotension: Likely [**3-18**] septic physiology.  Initial SvO2 of 69 and
   TTE argues against cardiac cause.  Vigileo SVV 7.
   - Continue levophed and vasopressin, wean to MAP >65
   - Goal MAP > 65, UOP > 25 cc/hr
   - F/U pending cultures
   - Gentle IVF as NPO, still febrile
   # Tetrology of Fallot: S/p repair, RVOT aneurysm s/p repair, ICD
   - Monitor on telemetry
   - Appreciate cardiology consult
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2193-12-27**] 11:19 PM 30 mL/hour -> Held due
   to residuals
   Glycemic Control:
   Lines:
   Arterial Line - [**2193-12-25**] 03:01 PM
   Multi Lumen - [**2193-12-25**] 03:02 PM
   20 Gauge - [**2193-12-25**] 03:02 PM
   Prophylaxis:
   DVT: Hep sc
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full
   Disposition : ICU for now
   Total time spent: 30  min

2193-12-28 08:00:00 Physician Resident Progress Note
Chief Complaint: respiratory distress
   24 Hour Events:
 BRONCHOSCOPY - At [**2193-12-27**] 04:45 PM -watery secretions seen
 FEVER - 101.3
F - [**2193-12-27**] 12:00 PM
   esophageal balloon placed
   flu negative
   po2 much better than sat would have predicted, fio2 weaned to 60% from
   70
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2193-12-27**] 06:00 PM
   Vancomycin - [**2193-12-27**] 08:00 PM
   Cefipime - [**2193-12-27**] 10:00 PM
   Infusions:
   Vasopressin - 2.4 units/hour
   Norepinephrine - 0.03 mcg/Kg/min
   Fentanyl - 250 mcg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2193-12-28**] 12:35 AM
   Pantoprazole (Protonix) - [**2193-12-28**] 03:08 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2193-12-28**] 08:00 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.5
C (101.3
   Tcurrent: 37.9
C (100.2
   HR: 79 (76 - 91) bpm
   BP: 100/57(74) {93/54(72) - 117/68(87)} mmHg
   RR: 26 (24 - 28) insp/min
   SpO2: 88%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 64 Inch
    CVP: 9 (6 - 11)mmHg
   Total In:
                                                                  2,830 mL
                                                                    658 mL
   PO:
   TF:
                                                                    597 mL
                                                                    230 mL
   IVF:
                                                                  1,954 mL
                                                                    428 mL
   Blood products:
   Total out:
                                                                    923 mL
                                                                    260 mL
   Urine:
                                                                    813 mL
                                                                    260 mL
   NG:
                                                                    110 mL
   Stool:
   Drains:
   Balance:
                                                                  1,907 mL
                                                                    398 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 420 (380 - 420) mL
   RR (Set): 26
   RR (Spontaneous): 0
   PEEP: 20 cmH2O
   FiO2: 60%
   RSBI Deferred: PEEP > 10, FiO2 > 60%
   PIP: 35 cmH2O
   Plateau: 33 cmH2O
   Compliance: 33.9 cmH2O/mL
   SpO2: 88%
   ABG: 7.43/42/209/27/3
   Ve: 11.5 L/min
   PaO2 / FiO2: 348
   Physical Examination
   Gen: Intubated, sedated.
   Lungs: Mild rhonchi bilaterally. No wheezes on anterior exam
   CV: RRR. No murumurs.
   Abdomen: Soft, NT. ND. No masses
   Extremities: No LE edema. WWP.
   Labs / Radiology
   379 K/uL
   9.6 g/dL
   146 mg/dL
   0.5 mg/dL
   27 mEq/L
   4.1 mEq/L
   14 mg/dL
   109 mEq/L
   142 mEq/L
   29.7 %
   9.2 K/uL
        [image002.jpg]
                            [**2193-12-26**]  10:31 AM
                            [**2193-12-26**]  02:20 PM
                            [**2193-12-26**]  05:48 PM
                            [**2193-12-27**]  03:04 AM
                            [**2193-12-27**]  03:08 AM
                            [**2193-12-27**]  07:31 AM
                            [**2193-12-27**]  12:27 PM
                            [**2193-12-27**]  08:14 PM
                            [**2193-12-28**]  03:35 AM
                            [**2193-12-28**]  03:51 AM
   WBC
   8.8
   8.5
   9.2
   Hct
   29.9
   30.6
   29.7
   Plt
   [**Telephone/Fax (3) 9303**]
   Cr
   0.5
   0.5
   0.5
   TCO2
   26
   27
   27
   26
   28
   28
   29
   Glucose
   147
   148
   146
   Other labs: PT / PTT / INR:15.2/30.5/1.3, ALT / AST:51/59, Alk Phos / T
   Bili:79/0.6, Differential-Neuts:82.9 %, Lymph:12.7 %, Mono:3.9 %,
   Eos:0.4 %, Lactic Acid:1.5 mmol/L, LDH:559 IU/L, Ca++:9.7 mg/dL,
   Mg++:2.4 mg/dL, PO4:1.7 mg/dL
   Microbiology: [**12-27**] Influenza negative
   Assessment and Plan
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
 HYPOTENSION (NOT SHOCK)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
   33 yo F with a history of Tetralogy of Fallot s/p repair at age
   6months, s/p RVOT aneurysm repair in [**2182**], who is transferred from OSH
   with multilobar pneumonia, hypoxemic respiratory failure, and
   hypotension.
   #  Hypoxemic respiratory failure: Patient has hypoxemia despite FiO2 of
   70% and PEEP of 20. Echo negative for intracardiac shunt. Concerning
   for intrapulmonary shunt physiology. Likely [**3-18**] severe multilobar
   pneumonia see on OSH chest CT. Clinically the patient does not appear
   fluid overloaded, and CXR shows no obvious effusions. Of note, patient
   has daughter who had confirmed [**Name (NI) 9259**] 2 weeks prior, however influenza
   antigen newly negative. Bronchoscopy shows hemorrhagic airways on the L
   side. Urine legionella antigen negative.
   -f/u BAL cultures
   -Vanc, Cefepime, Levoflox -day 1= [**12-25**]
   -continue tamiflu empirically
despite negative influenza antigen.
   Currently on day 4 of 5.
   -position patient with R lung down
   - continue AC with FiO2 of 60%
   .
   # Hypotension: [**3-18**] septic physiology.  Patient currently on levophed
   and vasopressin.  CVP 8-10 overnight
   -continue sedation
   -follow up BCxs, UA, UCx
   -would consider levophed and vasopressin for MAP<65
   -monitor perfusion with CVP, lactate, UO, and MAPs
   # Tetrology of Fallot s/p repair, RVOT aneurysm s/p repair. Echo shows
   normal EF, physiology.
   -f/u cardiology recs
   -monitor on telemetry
   .
   # FEN: IVFs PRN CVP<8 / replete lytes prn / NPO
f/u Nutrition consult
   # PPX: PPI, heparin SQ, bowel regimen
   # ACCESS: PIV, R IJ, A-line
   # CODE:  FULL
   # CONTACT:  [**Name (NI) 443**] [**Name (NI) **] [**Telephone/Fax (1) 9263**]
   # DISPO: ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2193-12-25**] 03:01 PM
   Multi Lumen - [**2193-12-25**] 03:02 PM
   20 Gauge - [**2193-12-25**] 03:02 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2193-12-29 06:55:00 Physician Resident Progress Note
Chief Complaint: Respitatory failure
   24 Hour Events:
 ARTERIAL LINE - STOP [**2193-12-28**] 07:00 PM
 BLOOD CULTURED - At [**2193-12-29**] 03:00 AM
   BC x 2
 URINE CULTURE - At [**2193-12-29**] 03:00 AM
 FEVER - 101.4
F - [**2193-12-29**] 03:00 AM
   O2 worse with FiO2 of 60%--> increased to 70%--> 65%
   still quite positional, better with L lung down now
   -not absorbing anything po, lots of residuals, TFs stopped
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2193-12-28**] 05:44 PM
   Vancomycin - [**2193-12-28**] 08:00 PM
   Cefipime - [**2193-12-28**] 10:00 PM
   Infusions:
   Norepinephrine - 0.02 mcg/Kg/min
   Fentanyl - 200 mcg/hour
   Midazolam (Versed) - 8 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2193-12-29**] 12:00 AM
   Pantoprazole (Protonix) - [**2193-12-29**] 02:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2193-12-29**] 06:55 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.6
C (101.4
   Tcurrent: 37.4
C (99.4
   HR: 70 (63 - 89) bpm
   BP: 101/57(67) {88/44(56) - 122/77(87)} mmHg
   RR: 26 (26 - 26) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 64 Inch
    CVP: 17 (12 - 41)mmHg
   Total In:
                                                                  2,485 mL
                                                                    370 mL
   PO:
   TF:
                                                                    304 mL
   IVF:
                                                                  2,181 mL
                                                                    370 mL
   Blood products:
   Total out:
                                                                    929 mL
                                                                    307 mL
   Urine:
                                                                    929 mL
                                                                    307 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,556 mL
                                                                     63 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 420 (420 - 420) mL
   RR (Set): 26
   RR (Spontaneous): 0
   PEEP: 20 cmH2O
   FiO2: 60%
   RSBI Deferred: PEEP > 10, FiO2 > 60%
   PIP: 35 cmH2O
   Plateau: 32 cmH2O
   Compliance: 37.2 cmH2O/mL
   SpO2: 93%
   ABG: 7.43/42/49/29/2
   Ve: 10.8 L/min
   PaO2 / FiO2: 82
   Physical Examination
   Gen: Intubated, sedated.
   Lungs: Mild rhonchi bilaterally. No wheezes on anterior exam
   CV: RRR. No murumurs.
   Abdomen: Soft, NT. ND. No masses
   Extremities: No LE edema. WWP.
   Labs / Radiology
   495 K/uL
   9.1 g/dL
   94 mg/dL
   0.6 mg/dL
   29 mEq/L
   4.1 mEq/L
   12 mg/dL
   113 mEq/L
   147 mEq/L
   28.4 %
   9.7 K/uL
        [image002.jpg]
                            [**2193-12-27**]  03:04 AM
                            [**2193-12-27**]  03:08 AM
                            [**2193-12-27**]  07:31 AM
                            [**2193-12-27**]  12:27 PM
                            [**2193-12-27**]  08:14 PM
                            [**2193-12-28**]  03:35 AM
                            [**2193-12-28**]  03:51 AM
                            [**2193-12-28**]  10:47 AM
                            [**2193-12-28**]  09:07 PM
                            [**2193-12-29**]  03:09 AM
   WBC
   8.8
   8.5
   9.2
   9.7
   Hct
   29.9
   30.6
   29.7
   28.4
   Plt
   [**Telephone/Fax (3) 9313**]95
   Cr
   0.5
   0.5
   0.5
   0.6
   TCO2
   26
   28
   28
   29
   28
   29
   Glucose
   147
   148
   146
   94
   Other labs: PT / PTT / INR:15.0/28.4/1.3, ALT / AST:51/59, Alk Phos / T
   Bili:79/0.6, Differential-Neuts:82.9 %, Lymph:12.7 %, Mono:3.9 %,
   Eos:0.4 %, Lactic Acid:1.5 mmol/L, LDH:559 IU/L, Ca++:9.6 mg/dL,
   Mg++:2.3 mg/dL, PO4:1.8 mg/dL
   Microbiology: [**12-29**] Blood cultures pending
   [**12-29**] Urine culture pending
   Assessment and Plan
 HYPERNATREMIA (HIGH SODIUM)
 ACUTE RESPIRATORY DISTRESS SYNDROME (ARDS, ACUTE LUNG INJURY, [**Doctor Last Name 2**])
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
 HYPOTENSION (NOT SHOCK)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
   33 yo F with a history of Tetralogy of Fallot s/p repair at age
   6months, s/p RVOT aneurysm repair in [**2182**], who is transferred from OSH
   with multilobar pneumonia, hypoxemic respiratory failure, and
   hypotension.
   #  Hypoxemic respiratory failure: Patient has hypoxemia despite FiO2 of
   65% and PEEP of 20. Echo negative for intracardiac shunt. Concerning
   for intrapulmonary shunt physiology. Likely [**3-18**] severe multilobar
   pneumonia see on OSH chest CT. Clinically the patient does not appear
   fluid overloaded, and CXR shows no obvious effusions. Of note, patient
   has daughter who had confirmed [**Name (NI) 9259**] 2 weeks prior, however influenza
   antigen newly negative. Bronchoscopy shows hemorrhagic airways on the L
   side. Urine legionella antigen negative.
   -f/u BAL cultures
   -Continue Vanc, Cefepime, Levoflox -day 1= [**12-25**]
   -Last day of  tamiflu empirically
despite negative influenza antigen.
   Currently on day 5 of 5.
   - continue AC with FiO2 of 65%
   - replace A-line
consider weaning FiO2 further
   .
   # Hypotension: [**3-18**] septic physiology.  Weaned off vasopressin
   yesterday. Patient currently on small amount of levophed.  CVP 8-10
   overnight
   -continue sedation
   -follow up BCxs, UA, UCx
   -would consider levophed and vasopressin for MAP<65
   -monitor perfusion with CVP, lactate, UO, and MAPs
   # Tetrology of Fallot s/p repair, RVOT aneurysm s/p repair. Echo shows
   normal EF, physiology.
   -f/u cardiology recs
   -monitor on telemetry
   .
   # FEN: IVFs PRN CVP<8 / replete lytes prn / NPO
was on tube feeds, but
   not absorbing (high residuals). Currently TFs have been stopped.
   # PPX: PPI, heparin SQ, bowel regimen
   # ACCESS: PIV, R IJ
placed at OSH. Needs to be replaced, A-line
   # CODE:  FULL
   # CONTACT:  [**Name (NI) 443**] [**Name (NI) **] [**Telephone/Fax (1) 9263**]
   # DISPO: ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2193-12-25**] 03:02 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2193-12-29 07:50:00 Physician Attending Progress Note
Chief Complaint: PNA
   I saw and examined the patient, and was physically present with the Dr.
   [**Last Name (STitle) 7195**] for key portions of the services provided. I agree with the
   note above, including the assessment and plan. I would emphasize and
   add the following points:
   HPI:
    See HPI
   24 Hour Events:
 ARTERIAL LINE
 lost, unable to be replaced overnight
 FEVER - 101.4
F - [**2193-12-29**] 03:00 AM, pan-cultured
   - Tube feeds held secondary to high residuals
   - FiO2 maintained between 60-70%
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2193-12-28**] 05:44 PM
   Vancomycin - [**2193-12-28**] 08:00 PM
   Cefipime - [**2193-12-28**] 10:00 PM
   Tamiflu
   Infusions:
   Norepinephrine - 0.03 mcg/Kg/min
   Fentanyl - 200 mcg/hour
   Midazolam (Versed) - 8 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2193-12-29**] 12:00 AM
   Pantoprazole (Protonix) - [**2193-12-29**] 02:00 AM
   Chlorhexidine
   Other medications:
   Colace
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2193-12-29**] 07:49 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.6
C (101.4
   Tcurrent: 37.4
C (99.4
   HR: 70 (63 - 89) bpm
   BP: 101/57(67) {88/44(56) - 122/77(87)} mmHg
   RR: 26 (26 - 26) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 64 Inch
   CVP: 17 (12 - 41)mmHg
   Total In:
                                                                  2,485 mL
                                                                    486 mL
   PO:
   TF:
                                                                    304 mL
   IVF:
                                                                  2,181 mL
                                                                    486 mL
   Blood products:
   Total out:
                                                                    929 mL
                                                                    307 mL
   Urine:
                                                                    929 mL
                                                                    307 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,556 mL
                                                                    179 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 420 (420 - 420) mL
   RR (Set): 26
   RR (Spontaneous): 0
   PEEP: 20 cmH2O
   FiO2: 60%
   RSBI Deferred: PEEP > 10, FiO2 > 60%
   PIP: 35 cmH2O
   Plateau: 32 cmH2O
   Compliance: 37.2 cmH2O/mL
   SpO2: 93%
   ABG: 7.43/42/49/29/2 - ?venous
   Ve: 10.8 L/min
   PaO2 / FiO2: 82
   Physical Examination
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   R>L, Diminished: Bases)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   9.1 g/dL
   495 K/uL
   94 mg/dL
   0.6 mg/dL
   29 mEq/L
   4.1 mEq/L
   12 mg/dL
   113 mEq/L
   147 mEq/L
   28.4 %
   9.7 K/uL
        [image002.jpg]
                            [**2193-12-27**]  03:04 AM
                            [**2193-12-27**]  03:08 AM
                            [**2193-12-27**]  07:31 AM
                            [**2193-12-27**]  12:27 PM
                            [**2193-12-27**]  08:14 PM
                            [**2193-12-28**]  03:35 AM
                            [**2193-12-28**]  03:51 AM
                            [**2193-12-28**]  10:47 AM
                            [**2193-12-28**]  09:07 PM
                            [**2193-12-29**]  03:09 AM
   WBC
   8.8
   8.5
   9.2
   9.7
   Hct
   29.9
   30.6
   29.7
   28.4
   Plt
   [**Telephone/Fax (3) 9313**]95
   Cr
   0.5
   0.5
   0.5
   0.6
   TCO2
   26
   28
   28
   29
   28
   29
   Glucose
   147
   148
   146
   94
   Other labs: PT / PTT / INR:15.0/28.4/1.3, ALT / AST:51/59, Alk Phos / T
   Bili:79/0.6, Differential-Neuts:82.9 %, Lymph:12.7 %, Mono:3.9 %,
   Eos:0.4 %, Lactic Acid:1.5 mmol/L, LDH:559 IU/L, Ca++:9.6 mg/dL,
   Mg++:2.3 mg/dL, PO4:1.8 mg/dL
   BAL Cultures NGTD
   Flu swab negative
   Assessment and Plan
   33 yo F with a history of Tetralogy of Fallot s/p repair at age
   6months, s/p RVOT aneurysm repair in [**2182**], and ICD for NSVT who is
   transferred from OSH with severe multilobar pneumonia (L>R), hypoxemic
   respiratory failure, and hypotension requiring pressors.
   # Hypoxemic respiratory failure:  Likely [**3-18**] to severe PNA.
   Significant shunt component given PaO2 of 74 on 100% FiO2 and PEEP of
   12, probably due to consolidations.  No evidence of intracardaic shunt
   on TTE.
   - F/u BAL cultures.  Flu swab negative at [**Hospital1 1**]
   - Continue Vanc, Cefepime, Levoflox
 Day [**6-27**]
   - Empiric tamiflu (day [**6-18**])
   - ARDSnet ventilation, position patient with R lung down.  Esophageal
   balloon showed reasonable trans-pulmonary pressures.  [**Month (only) 11**] need more
   aggressive salvage techniques (inhaled NO, ECMO, etc)
   - Increase sedation significantly, consider pulling back if FiO2
   continues to decrease
   - Bronchoscopy [**12-27**] showed minimal secretions, edematous airways
   - CXR and O2 sat appear to be somewhat improved, although still with
   elevated PIPs
   - Need new A-line
   # Hypotension: Likely [**3-18**] septic physiology.  Initial SvO2 of 69 and
   TTE argues against cardiac cause.  Weaned off vasopressin [**12-28**].
   - Continue levophed, wean to MAP >65
   - Goal MAP > 65, UOP > 25 cc/hr
   - F/U pending cultures
   - Stop IVF given CVP, net positive
   - PEEP quite high and may be contributing, if possible will attempt to
   drop
   # Tetrology of Fallot: S/p repair, RVOT aneurysm s/p repair, ICD
   - Monitor on telemetry
   - Appreciate cardiology consult
   ICU Care
   Nutrition: NPO given high residuals, will try to resume
   Glycemic Control:
   Lines:
   Multi Lumen - [**2193-12-25**] 03:02 PM
 Placed at OSH, needs to be replaced
   - Will replace CVC, new Aline today
   Prophylaxis:
   DVT: Hep sc
   Stress ulcer: PPI
   VAP: HOB up
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition : ICU for now
   Total time spent:
   Pt is critically ill.  Total time spent 30min

2193-12-30 06:16:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 ARTERIAL LINE - START [**2193-12-29**] 06:43 PM
   rt foot
 ULTRASOUND - At [**2193-12-29**] 08:00 PM
   Left IJ CVL attempted yesterday without success, +difficulty threading
   catheter.
   Right IJ CVL meeting resistance with flushing yesterday afternoon.
   Given difficulty with Left IJ insertion and new resistance of Right IJ,
   concern was for clot.  Bilateral Upper Extremity U/S ordered but Right
   side was only done by tech.  +DVT or Right Brachial Vein.  Heparin gtt
   was started, CTA Chest ordered for this morning for evaluation.
   Patient was on wall suction yesterday [**3-18**] high Tube Feed residual,
   +bilious fluid.  Abdomen soft.  No bowel movement in last few days.
   Fleet enema ordered this morning.
   Right Distal Pedal Arterial Line placed, Blood pressures not accurate
   but able to get ABG.
   Vent weaned down to FiO2 60% with PEEP 18.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2193-12-28**] 05:44 PM
   Vancomycin - [**2193-12-29**] 08:00 PM
   Cefipime - [**2193-12-29**] 10:00 PM
   Infusions:
   Norepinephrine - 0.05 mcg/Kg/min
   Midazolam (Versed) - 6 mg/hour
   Fentanyl - 200 mcg/hour
   Heparin Sodium - 1,100 units/hour
   Other ICU medications:
   Heparin Sodium - [**2193-12-29**] 11:20 PM
   Pantoprazole (Protonix) - [**2193-12-30**] 02:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2193-12-30**] 06:16 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 37.4
C (99.4
   HR: 73 (65 - 89) bpm
   BP: 110/42(60) {101/42(60) - 159/92(105)} mmHg
   RR: 26 (16 - 26) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 64 Inch
    CVP: 17 (3 - 22)mmHg
   Total In:
                                                                  2,995 mL
                                                                    340 mL
   PO:
   TF:
   IVF:
                                                                  2,935 mL
                                                                    340 mL
   Blood products:
   Total out:
                                                                    912 mL
                                                                    270 mL
   Urine:
                                                                    912 mL
                                                                    270 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,083 mL
                                                                     70 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 420 (420 - 420) mL
   RR (Set): 26
   RR (Spontaneous): 0
   PEEP: 18 cmH2O
   FiO2: 60%
   PIP: 34 cmH2O
   Plateau: 32 cmH2O
   Compliance: 32.3 cmH2O/mL
   SpO2: 93%
   ABG: 7.47/38/108/26/3
   Ve: 11.4 L/min
   PaO2 / FiO2: 180
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   563 K/uL
   9.0 g/dL
   104 mg/dL
   0.5 mg/dL
   26 mEq/L
   3.6 mEq/L
   12 mg/dL
   111 mEq/L
   144 mEq/L
   27.1 %
   12.2 K/uL
        [image002.jpg]
                            [**2193-12-28**]  03:51 AM
                            [**2193-12-28**]  10:47 AM
                            [**2193-12-28**]  09:07 PM
                            [**2193-12-29**]  03:09 AM
                            [**2193-12-29**]  09:12 AM
                            [**2193-12-29**]  05:34 PM
                            [**2193-12-29**]  08:52 PM
                            [**2193-12-29**]  09:06 PM
                            [**2193-12-30**]  02:56 AM
                            [**2193-12-30**]  03:10 AM
   WBC
   9.7
   12.2
   Hct
   28.4
   27.1
   Plt
   495
   563
   Cr
   0.6
   0.4
   0.5
   TCO2
   29
   28
   29
   30
   30
   29
   28
   Glucose
   94
   112
   129
   104
   Other labs: PT / PTT / INR:15.0/28.4/1.3, ALT / AST:51/59, Alk Phos / T
   Bili:79/0.6, Differential-Neuts:82.9 %, Lymph:12.7 %, Mono:3.9 %,
   Eos:0.4 %, Lactic Acid:1.5 mmol/L, LDH:559 IU/L, Ca++:9.5 mg/dL,
   Mg++:2.1 mg/dL, PO4:2.2 mg/dL
   Assessment and Plan
 DEEP VENOUS THROMBOSIS (DVT), UPPER EXTREMITY
 [**Last Name **] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 HYPERNATREMIA (HIGH SODIUM)
 ACUTE RESPIRATORY DISTRESS SYNDROME (ARDS, ACUTE LUNG INJURY, [**Doctor Last Name 2**])
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
 HYPOTENSION (NOT SHOCK)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
   33 yo F with a history of Tetralogy of Fallot s/p repair at age
   6months, s/p RVOT aneurysm repair in [**2182**], who is transferred from OSH
   with multilobar pneumonia, hypoxemic respiratory failure, and
   hypotension.
   #  Hypoxemic respiratory failure: Patient continues with hypoxemia, on
   PEEP 20 with FiO2 60%.  Likely [**3-18**] severe Left sided PNA which is now
   improving.  Right Lung now seems to be involved as well.  Bronchoscopy
   done a few days ago showed hemorrhagic airways on the L side. Urine
   legionella antigen negative.
   -f/u BAL cultures, currently negative
   -Continue Vanc, Cefepime, Levoflox -day [**6-27**]
    - continue AC with FiO2 of 60%, PEEP 20,
   - replace A-line
consider weaning FiO2 further
   - replace CVL
   .
   # Hypotension: [**3-18**] septic physiology.  Weaned off vasopressin. Patient
   currently on small amount of levophed.  CVP 17 overnight
   -wean sedation
   -follow up BCxs, UA, UCx
   -monitor perfusion with CVP, lactate, UO, and MAPs
   # Hypernatremia:  Patient with Na of 147 today, likely [**3-18**] dehydration.
   - recheck Na in PM
   - consider fluid bolus with
 NS pending PM Lytes
   # Tetrology of Fallot s/p repair, RVOT aneurysm s/p repair. Echo shows
   normal EF, physiology.
   -f/u cardiology recs
   -monitor on telemetry
   .
   # FEN: IVFs PRN CVP<8 / replete lytes prn / NPO
was on tube feeds, but
   not absorbing (high residuals). Currently TFs have been stopped.
   # PPX: PPI, heparin SQ, bowel regimen
   # ACCESS: PIV, R IJ
placed at OSH. Needs to be replaced today, A-line
   # CODE:  FULL
   # CONTACT:  [**Name (NI) 443**] [**Name (NI) **] [**Telephone/Fax (1) 9263**]
   # DISPO: ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2193-12-25**] 03:02 PM
   Arterial Line - [**2193-12-29**] 06:43 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2193-12-30 09:28:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   - Unsuccessful attempts to resite RIJ
   - R pedal arterial line
   - RUE ultrasound - +R brachial DVT
   - High residuals on TF
   - Weaned vent to FiO2 60 and PEEP 18
   - Persistent levophed requirement
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2193-12-28**] 05:44 PM
   Cefipime - [**2193-12-29**] 10:00 PM
   Vancomycin - [**2193-12-30**] 08:00 AM
   Infusions:
   Norepinephrine - 0.03 mcg/Kg/min
   Midazolam (Versed) - 6 mg/hour
   Fentanyl - 200 mcg/hour
   Other ICU medications:
   Heparin Sodium - [**2193-12-29**] 11:20 PM
   Pantoprazole (Protonix) - [**2193-12-30**] 02:00 AM
   Other medications:
   Vanco, Levo, Tamiflu, Albuterol/Atrovent, Colace, PPI, Cefepime,
   Levophed
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2193-12-30**] 09:28 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.9
   Tcurrent: 37.7
C (99.9
   HR: 73 (65 - 89) bpm
   BP: 116/50(67) {101/42(60) - 159/92(105)} mmHg
   RR: 26 (16 - 26) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 64 Inch
   CVP: 17 (3 - 22)mmHg
   Total In:
                                                                  2,995 mL
                                                                    987 mL
   PO:
   TF:
   IVF:
                                                                  2,935 mL
                                                                    927 mL
   Blood products:
   Total out:
                                                                    912 mL
                                                                    483 mL
   Urine:
                                                                    912 mL
                                                                    483 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,083 mL
                                                                    504 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 420 (420 - 420) mL
   RR (Set): 26
   RR (Spontaneous): 0
   PEEP: 18 cmH2O
   FiO2: 60%
   PIP: 33 cmH2O
   Plateau: 32 cmH2O
   Compliance: 32.3 cmH2O/mL
   SpO2: 94%
   ABG: 7.47/38/108/26/3
   Ve: 11.9 L/min
   PaO2 / FiO2: 180
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Diminished: , Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   9.0 g/dL
   563 K/uL
   104 mg/dL
   0.5 mg/dL
   26 mEq/L
   3.6 mEq/L
   12 mg/dL
   111 mEq/L
   144 mEq/L
   27.1 %
   12.2 K/uL
        [image002.jpg]
                            [**2193-12-28**]  03:51 AM
                            [**2193-12-28**]  10:47 AM
                            [**2193-12-28**]  09:07 PM
                            [**2193-12-29**]  03:09 AM
                            [**2193-12-29**]  09:12 AM
                            [**2193-12-29**]  05:34 PM
                            [**2193-12-29**]  08:52 PM
                            [**2193-12-29**]  09:06 PM
                            [**2193-12-30**]  02:56 AM
                            [**2193-12-30**]  03:10 AM
   WBC
   9.7
   12.2
   Hct
   28.4
   27.1
   Plt
   495
   563
   Cr
   0.6
   0.4
   0.5
   TCO2
   29
   28
   29
   30
   30
   29
   28
   Glucose
   94
   112
   129
   104
   Other labs: PT / PTT / INR:15.3/48.8/1.3, ALT / AST:51/59, Alk Phos / T
   Bili:79/0.6, Differential-Neuts:82.9 %, Lymph:12.7 %, Mono:3.9 %,
   Eos:0.4 %, Lactic Acid:1.5 mmol/L, LDH:559 IU/L, Ca++:9.5 mg/dL,
   Mg++:2.1 mg/dL, PO4:2.2 mg/dL
   Imaging: CXR - Worsening bilateral infiltrates
   Microbiology: No new micro.
   Assessment and Plan
   33 yo F with a history of Tetralogy of Fallot s/p repair at age
   6months, s/p RVOT aneurysm repair in [**2182**], and ICD for NSVT who is
   transferred from OSH with severe multilobar pneumonia (L>R), hypoxemic
   respiratory failure, and hypotension requiring pressors.
   # Hypoxemic respiratory failure:  Likely [**3-18**] to severe PNA
 CXR worse
   today, ? effusion.  No evidence of intracardaic shunt on TTE.
   Bronchoscopy [**12-27**] showed minimal secretions, edematous airways. Now
   with DVT.
   - F/u BAL cultures.  Flu swab negative at [**Hospital1 1**].
   - Continue Vanc, Cefepime, Levoflox
 Day [**7-28**].  S/p empiric tamiflu.
   - ARDSnet ventilation, position patient with R lung down.  Esophageal
   balloon showed reasonable trans-pulmonary pressures. Heavily sedated.
   - Try to get PIV to obtain PE-CT to evaluate for PE, SVC clot and
   possible effusions.  Start mucomyst.
   - If evidence of effusion, would consider thoracentesis.  Unlikely to
   be empyema now that afebrile.
   # Hypotension: Likely [**3-18**] septic physiology.  Initial SvO2 of 69 and
   TTE argues against cardiac cause.  Weaned off vasopressin [**12-28**].
   - Continue levophed, wean to MAP >65, UOP > 25 cc/hr
   - F/U pending cultures
   - PEEP quite high and may be contributing, if possible will attempt to
   drop while following esophageal balloon pressures
   # R brachial clot:
   - LUE/ BLE U/S to evaluate for further clot
   - PE-CT to evaluate for central clot
   - Restart heparin as no procedures planned today
   # Central access: Attempts to resite line made, but now given known
   clot, difficult anatomy, and high PEEP, will not make further
   attempts.  Aware of policy to change line within 24 hours, but are
   unable to at this time and low suspicion that line is infectious
   source.  Will remove or change line as soon as clinically safe.
   # High residuals: Bowel regimen and reattempt starting TF today.
   Start reglan.
   # Tetrology of Fallot: S/p repair, RVOT aneurysm s/p repair, ICD
   - Monitor on telemetry
   - Appreciate cardiology consult
   ICU Care
   Nutrition:
   Comments: TF on hold
   Glycemic Control:
   Lines:
   Multi Lumen - [**2193-12-25**] 03:02 PM
   Arterial Line - [**2193-12-29**] 06:43 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Need for restraints reviewed
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 30 minutes
   Patient is critically ill

2193-12-31 07:11:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 ULTRASOUND - At [**2193-12-30**] 04:15 PM
   LUE and bilater lower extremities looking for clots.
 FEVER - 102.0
F - [**2193-12-30**] 04:00 PM
   - second US of UE notable for partially occlusive clot of one brachial
   vein; she has b/L UE DVTs
   - CT scan with moderate right sided effusion (as expected), received 20
   IV lasix in the afternoon with good UOP and a second dose in the
   evening; may need [**Female First Name (un) 231**] if little improvement.
   - prelim read regarding SVC clot negative
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2193-12-30**] 06:00 PM
   Vancomycin - [**2193-12-30**] 07:45 PM
   Cefipime - [**2193-12-30**] 10:20 PM
   Infusions:
   Norepinephrine - 0.06 mcg/Kg/min
   Heparin Sodium - 1,600 units/hour
   Fentanyl - 200 mcg/hour
   Midazolam (Versed) - 6 mg/hour
   Other ICU medications:
   Heparin Sodium - [**2193-12-30**] 05:56 PM
   Furosemide (Lasix) - [**2193-12-31**] 01:00 AM
   Pantoprazole (Protonix) - [**2193-12-31**] 02:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2193-12-31**] 07:10 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.9
C (102
   Tcurrent: 37.9
C (100.2
   HR: 86 (73 - 88) bpm
   BP: 206/101(130) {113/50(67) - 206/101(130)} mmHg
   RR: 26 (23 - 26) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 64 Inch
    CVP: 14 (3 - 25)mmHg
   CO/CI (Fick): (8.1 L/min) / (4.4 L/min/m2)
   Bladder pressure: 9 (9 - 9) mmHg
   Mixed Venous O2% Sat: 67 - 67
   Total In:
                                                                  2,780 mL
                                                                    866 mL
   PO:
   TF:
                                                                     63 mL
   IVF:
                                                                  2,570 mL
                                                                    444 mL
   Blood products:
   Total out:
                                                                  2,104 mL
                                                                  1,305 mL
   Urine:
                                                                  2,104 mL
                                                                  1,305 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    676 mL
                                                                   -439 mL
   Respiratory support
   O2 Delivery Device: Trach mask , Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 420 (420 - 420) mL
   RR (Set): 26
   RR (Spontaneous): 0
   PEEP: 18 cmH2O
   FiO2: 60%
   RSBI Deferred: PEEP > 10, FiO2 > 60%, Hemodynamic Instability
   PIP: 33 cmH2O
   Plateau: 31 cmH2O
   Compliance: 35 cmH2O/mL
   SpO2: 96%
   ABG: 7.45/45/70/30/6
   Ve: 11.2 L/min
   PaO2 / FiO2: 117
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4,
   (Murmur: Systolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric). Diffuse rhonchi
   bilaterally on anterior exam. No wheezing or crackles.
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+, No(t) Cyanosis, No(t) Clubbing
   Skin:  Warm
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   668 K/uL
   8.9 g/dL
   106 mg/dL
   0.6 mg/dL
   30 mEq/L
   4.1 mEq/L
   10 mg/dL
   107 mEq/L
   144 mEq/L
   27.9 %
   13.9 K/uL
        [image002.jpg]
                            [**2193-12-29**]  03:09 AM
                            [**2193-12-29**]  09:12 AM
                            [**2193-12-29**]  05:34 PM
                            [**2193-12-29**]  08:52 PM
                            [**2193-12-29**]  09:06 PM
                            [**2193-12-30**]  02:56 AM
                            [**2193-12-30**]  03:10 AM
                            [**2193-12-30**]  03:09 PM
                            [**2193-12-31**]  02:47 AM
                            [**2193-12-31**]  03:00 AM
   WBC
   9.7
   12.2
   13.9
   Hct
   28.4
   27.1
   27.9
   Plt
   495
   563
   668
   Cr
   0.6
   0.4
   0.5
   0.6
   TCO2
   30
   30
   29
   28
   28
   32
   Glucose
   94
   112
   129
   104
   102
   106
   Other labs: PT / PTT / INR:17.3/61.2/1.5, ALT / AST:51/59, Alk Phos / T
   Bili:79/0.6, Differential-Neuts:77.0 %, Band:0.0 %, Lymph:7.0 %,
   Mono:12.0 %, Eos:3.0 %, Lactic Acid:1.6 mmol/L, LDH:559 IU/L, Ca++:8.7
   mg/dL, Mg++:2.1 mg/dL, PO4:3.0 mg/dL
   Assessment and Plan
 DEEP VENOUS THROMBOSIS (DVT), UPPER EXTREMITY
 [**Last Name **] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 HYPERNATREMIA (HIGH SODIUM)
 ACUTE RESPIRATORY DISTRESS SYNDROME (ARDS, ACUTE LUNG INJURY, [**Doctor Last Name 2**])
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
 HYPOTENSION (NOT SHOCK)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
   33 yo F with a history of Tetralogy of Fallot s/p repair at age
   6months, s/p RVOT aneurysm repair in [**2182**], who is transferred from OSH
   with multilobar pneumonia, hypoxemic respiratory failure, and
   hypotension.
   #  Hypoxemic respiratory failure: Patient continues with hypoxemia, on
   PEEP 18 with FiO2 60%.  Likely [**3-18**] severe Left sided PNA which is now
   improving.  Right Lung now seems to be involved as well.  Bronchoscopy
   done a few days ago showed hemorrhagic airways on the L side. Urine
   legionella antigen negative.
   -f/u BAL cultures, currently negative
   - CTA chest today to eval lung parenchyma, vascular system
f/u final
   read
   -Continue Vanc, Cefepime, Levoflox -day [**8-27**]
   -20mg IV lasix tid today as BP tolerates to decrease pleural effusions
   -consider thoracentesis tomorrow if not responsive to diuresis
   - consider weaning to AC with FiO2 of 50%, PEEP 18
f/u ABG
   # Right Brachial Clot:  - Left IJ attempted yesterday and was
   unsuccessful.  There was difficulty threading the catheter which raised
   the concern for SVC clot.  U/S of Upper extremities showed +brachial
   clot which seems to be spontatneous as she has no venous line on that
   arm.  Heparin started. CT negative for SVC clot
   - cont Heparin gtt
   - CTA chest for evaluation of SVC clot
f/u final read
   -no LE DVTs
   # Hypotension: [**3-18**] septic physiology.  Weaned off vasopressin. Patient
   currently on levophed
   -cont to wean levophed as tolerated
   -follow up BCxs, UA, UCx
   -monitor perfusion with CVP, lactate, UO, and MAPs
   # Tetrology of Fallot s/p repair, RVOT aneurysm s/p repair. Echo shows
   normal EF, physiology.
   -f/u cardiology recs
   -monitor on telemetry
   .
   # FEN: No IVFs as diuresing / replete lytes prn /  restarted TFs.
   # PPX: PPI, heparin gtt, bowel regimen
   # ACCESS: PIV, R IJ
placed at OSH.  A-line in right foot.
   # CODE:  FULL
   # CONTACT:  [**Name (NI) 443**] [**Name (NI) **] [**Telephone/Fax (1) 9263**]
   # DISPO: ICU
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2193-12-31**] 04:00 AM 20 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2193-12-25**] 03:02 PM
   Arterial Line - [**2193-12-29**] 06:43 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2193-12-31 10:22:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   - Tm 102
   - BUE DVTs on U/S
   - CT scan with moderate right pleural effusion, no SVC clot
   - IV lasix 20mg x 2 with good UOP
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2193-12-30**] 06:00 PM
   Vancomycin - [**2193-12-31**] 08:00 AM
   Cefipime - [**2193-12-31**] 10:00 AM
   Infusions:
   Norepinephrine - 0.06 mcg/Kg/min
   Heparin Sodium - 1,600 units/hour
   Midazolam (Versed) - 6 mg/hour
   Fentanyl - 200 mcg/hour
   Other ICU medications:
   Heparin Sodium - [**2193-12-30**] 05:56 PM
   Furosemide (Lasix) - [**2193-12-31**] 01:00 AM
   Pantoprazole (Protonix) - [**2193-12-31**] 02:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2193-12-31**] 10:21 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.9
C (102
   Tcurrent: 38.6
C (101.5
   HR: 82 (75 - 88) bpm
   BP: 146/65(86) {115/53(70) - 206/101(130)} mmHg
   RR: 26 (23 - 26) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 64 Inch
   CVP: 12 (3 - 25)mmHg
   CO/CI (Fick): (8.1 L/min) / (4.4 L/min/m2)
   Bladder pressure: 9 (9 - 9) mmHg
   Mixed Venous O2% Sat: 67 - 67
   Total In:
                                                                  2,780 mL
                                                                  1,831 mL
   PO:
   TF:
                                                                    148 mL
   IVF:
                                                                  2,570 mL
                                                                  1,233 mL
   Blood products:
   Total out:
                                                                  2,104 mL
                                                                  1,455 mL
   Urine:
                                                                  2,104 mL
                                                                  1,455 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    676 mL
                                                                    376 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 420 (420 - 420) mL
   RR (Set): 26
   RR (Spontaneous): 0
   PEEP: 18 cmH2O
   FiO2: 60%
   RSBI Deferred: PEEP > 10, FiO2 > 60%, Hemodynamic Instability
   PIP: 33 cmH2O
   Plateau: 31 cmH2O
   Compliance: 35 cmH2O/mL
   SpO2: 97%
   ABG: 7.45/45/70/30/6
   Ve: 11.7 L/min
   PaO2 / FiO2: 117
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Crackles : , Diminished: ,
   Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   8.9 g/dL
   668 K/uL
   106 mg/dL
   0.6 mg/dL
   30 mEq/L
   4.1 mEq/L
   10 mg/dL
   107 mEq/L
   144 mEq/L
   27.9 %
   13.9 K/uL
        [image002.jpg]
                            [**2193-12-29**]  03:09 AM
                            [**2193-12-29**]  09:12 AM
                            [**2193-12-29**]  05:34 PM
                            [**2193-12-29**]  08:52 PM
                            [**2193-12-29**]  09:06 PM
                            [**2193-12-30**]  02:56 AM
                            [**2193-12-30**]  03:10 AM
                            [**2193-12-30**]  03:09 PM
                            [**2193-12-31**]  02:47 AM
                            [**2193-12-31**]  03:00 AM
   WBC
   9.7
   12.2
   13.9
   Hct
   28.4
   27.1
   27.9
   Plt
   495
   563
   668
   Cr
   0.6
   0.4
   0.5
   0.6
   TCO2
   30
   30
   29
   28
   28
   32
   Glucose
   94
   112
   129
   104
   102
   106
   Other labs: PT / PTT / INR:17.3/61.2/1.5, ALT / AST:51/59, Alk Phos / T
   Bili:79/0.6, Differential-Neuts:77.0 %, Band:0.0 %, Lymph:7.0 %,
   Mono:12.0 %, Eos:3.0 %, Lactic Acid:1.6 mmol/L, LDH:559 IU/L, Ca++:8.7
   mg/dL, Mg++:2.1 mg/dL, PO4:3.0 mg/dL
   Imaging: CXR - Bilateral infiltrates.
   Microbiology: No new culture data.
   Assessment and Plan
   33 yo F with a history of Tetralogy of Fallot s/p repair at age
   6months, s/p RVOT aneurysm repair in [**2182**], and ICD for NSVT who is
   transferred from OSH with severe multilobar pneumonia (L>R), hypoxemic
   respiratory failure, and hypotension requiring pressors.
   # Hypoxemic respiratory failure:  Likely [**3-18**] to severe PNA and
   bilateral effusions.  No evidence of intracardaic shunt on TTE.
   Bronchoscopy [**12-27**] showed minimal secretions, edematous airways.
   - F/u BAL cultures.  Flu swab negative at [**Hospital1 1**].
   - Continue Vanc, Cefepime, Levoflox
 Day [**8-27**].  S/p empiric tamiflu x
   5 days.
   - ARDSnet ventilation, position patient with R lung down.  Esophageal
   balloon showed reasonable trans-pulmonary pressures. Heavily sedated.
   Wean FiO2/Peep as tolerated.
   - Diuresis
   - Follow final CT read
   - Defer thoracentesis to tomorrow
 will reassess after one more day of
   diuresis. Hold heparin overnight in anticipation of thoracentesis if
   still on current ventilator settings
   # Hypotension: Likely [**3-18**] septic physiology.  Initial SvO2 of 69 and
   TTE argues against cardiac cause.  Weaned off vasopressin [**12-28**].
   - Continue levophed, wean to MAP >65
   - F/U pending cultures
   - Daily lactate
   # Persistent fevers: Likely [**3-18**] PNA.  Pan cultured yesterday and chest
   CT scan done.  Could be due to DVT.  Drug fever unlikely given lack of
   eosinophilia.
   - Recheck LFTs, lipase
   - Check C. diff
   - [**Female First Name (un) **] if persistently febrile
   # B/L upper extremity clot:  No evidence of PE.
   - Heparin gtt
   # Tetrology of Fallot: S/p repair, RVOT aneurysm s/p repair, ICD
   - Monitor on telemetry
   - Appreciate cardiology input
   # Central access: Attempts to resite line made, but now given known
   clot, difficult anatomy, and high PEEP, will not make further
   attempts.  Aware of policy to change line within 24 hours, but are
   unable to at this time and low suspicion that line is infectious
   source.  Will remove or change line as soon as clinically safe.
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2193-12-31**] 04:00 AM 30 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2193-12-25**] 03:02 PM
   Arterial Line - [**2193-12-29**] 06:43 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Need for restraints reviewed
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 50 minutes
   Patient is critically ill

2194-01-01 06:33:00 Physician Resident Progress Note
Chief Complaint: Respiratory distress
   24 Hour Events:
 STOOL CULTURE - At [**2193-12-31**] 03:00 PM
 FEVER - 102.5
F - [**2194-1-1**] 04:00 AM
   heparin gtt stopped at midnight for possible thoracentesis today
   didn't tolerate FiO2 of 50%---> back up to 60%
   got 20mg IV lasix x3 with good urine output
   Tm 102.5 this AM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2193-12-30**] 06:00 PM
   Vancomycin - [**2193-12-31**] 08:00 PM
   Cefipime - [**2193-12-31**] 10:33 PM
   Infusions:
   Norepinephrine - 0.07 mcg/Kg/min
   Midazolam (Versed) - 6 mg/hour
   Fentanyl - 200 mcg/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2193-12-31**] 08:00 PM
   Pantoprazole (Protonix) - [**2194-1-1**] 01:56 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2194-1-1**] 06:32 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.2
C (102.5
   Tcurrent: 38.7
C (101.6
   HR: 84 (78 - 91) bpm
   BP: 134/63(80) {111/51(65) - 158/74(94)} mmHg
   RR: 26 (23 - 26) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 64 Inch
    CVP: 14 (10 - 14)mmHg
   Total In:
                                                                  3,631 mL
                                                                  1,003 mL
   PO:
   TF:
                                                                    755 mL
                                                                    391 mL
   IVF:
                                                                  2,336 mL
                                                                    312 mL
   Blood products:
   Total out:
                                                                  4,760 mL
                                                                    470 mL
   Urine:
                                                                  4,760 mL
                                                                    470 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,129 mL
                                                                    534 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 420 (420 - 420) mL
   RR (Set): 26
   RR (Spontaneous): 0
   PEEP: 18 cmH2O
   FiO2: 60%
   RSBI Deferred: PEEP > 10
   PIP: 32 cmH2O
   Plateau: 31 cmH2O
   Compliance: 35 cmH2O/mL
   SpO2: 97%
   ABG: 7.51/41/91/30/8
   Ve: 11.4 L/min
   PaO2 / FiO2: 152
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   635 K/uL
   8.4 g/dL
   120 mg/dL
   0.6 mg/dL
   30 mEq/L
   4.2 mEq/L
   13 mg/dL
   101 mEq/L
   138 mEq/L
   25.7 %
   17.2 K/uL
        [image002.jpg]
                            [**2193-12-29**]  09:06 PM
                            [**2193-12-30**]  02:56 AM
                            [**2193-12-30**]  03:10 AM
                            [**2193-12-30**]  03:09 PM
                            [**2193-12-31**]  02:47 AM
                            [**2193-12-31**]  03:00 AM
                            [**2193-12-31**]  04:54 PM
                            [**2193-12-31**]  05:09 PM
                            [**2194-1-1**]  04:21 AM
                            [**2194-1-1**]  04:37 AM
   WBC
   12.2
   13.9
   17.2
   Hct
   27.1
   27.9
   25.7
   Plt
   [**Telephone/Fax (3) 9376**]
   Cr
   0.5
   0.6
   0.6
   0.6
   TCO2
   29
   28
   28
   32
   34
   34
   Glucose
   104
   102
   106
   111
   120
   Other labs: PT / PTT / INR:17.3/66.7/1.5, ALT / AST:32/41, Alk Phos / T
   Bili:78/0.5, Differential-Neuts:77.0 %, Band:0.0 %, Lymph:7.0 %,
   Mono:12.0 %, Eos:3.0 %, Lactic Acid:2.3 mmol/L, LDH:559 IU/L, Ca++:9.6
   mg/dL, Mg++:2.2 mg/dL, PO4:2.1 mg/dL
   Assessment and Plan
 DEEP VENOUS THROMBOSIS (DVT), UPPER EXTREMITY
 [**Last Name **] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 HYPERNATREMIA (HIGH SODIUM)
 ACUTE RESPIRATORY DISTRESS SYNDROME (ARDS, ACUTE LUNG INJURY, [**Doctor Last Name 2**])
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
 HYPOTENSION (NOT SHOCK)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
   33 yo F with a history of Tetralogy of Fallot s/p repair at age
   6months, s/p RVOT aneurysm repair in [**2182**], who is transferred from OSH
   with multilobar pneumonia, hypoxemic respiratory failure, and
   hypotension.
   #  Hypoxemic respiratory failure: Patient continues with hypoxemia, on
   PEEP 18 with FiO2 60%.  Likely [**3-18**] severe Left sided PNA which is now
   improving.  Right Lung now seems to be involved as well.  Bronchoscopy
   done a few days ago showed hemorrhagic airways on the L side. Urine
   legionella antigen negative.
   -f/u BAL cultures, currently negative
   - CTA chest today to eval lung parenchyma, vascular system
f/u final
   read
   -Continue Vanc, Cefepime, Levoflox -day [**8-27**]
   -20mg IV lasix tid today as BP tolerates to decrease pleural effusions
   -consider thoracentesis tomorrow if not responsive to diuresis
   - consider weaning to AC with FiO2 of 50%, PEEP 18
f/u ABG
   # Right Brachial Clot:  - Left IJ attempted yesterday and was
   unsuccessful.  There was difficulty threading the catheter which raised
   the concern for SVC clot.  U/S of Upper extremities showed +brachial
   clot which seems to be spontatneous as she has no venous line on that
   arm.  Heparin started. CT negative for SVC clot
   - cont Heparin gtt
   - CTA chest for evaluation of SVC clot
f/u final read
   -no LE DVTs
   # Hypotension: [**3-18**] septic physiology.  Weaned off vasopressin. Patient
   currently on levophed
   -cont to wean levophed as tolerated
   -follow up BCxs, UA, UCx
   -monitor perfusion with CVP, lactate, UO, and MAPs
   # Tetrology of Fallot s/p repair, RVOT aneurysm s/p repair. Echo shows
   normal EF, physiology.
   -f/u cardiology recs
   -monitor on telemetry
   .
   # FEN: No IVFs as diuresing / replete lytes prn /  restarted TFs.
   # PPX: PPI, heparin gtt, bowel regimen
   # ACCESS: PIV, R IJ
placed at OSH.  A-line in right foot.
   # CODE:  FULL
   # CONTACT:  [**Name (NI) 443**] [**Name (NI) **] [**Telephone/Fax (1) 9263**]
   # DISPO: ICU
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2194-1-1**] 04:03 AM 60 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2193-12-25**] 03:02 PM
   Arterial Line - [**2193-12-29**] 06:43 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2194-01-02 07:04:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 BLOOD CULTURED - At [**2194-1-1**] 08:00 AM
   from a-line.
 BLOOD CULTURED - At [**2194-1-1**] 08:30 AM
   from TLC.
 URINE CULTURE - At [**2194-1-1**] 08:30 AM
 THORACENTESIS - At [**2194-1-1**] 02:00 PM
   R lung.
 FEVER - 101.5
F - [**2194-1-2**] 04:00 AM
   [**Female First Name (un) **] done yesterday with removal of 800cc of serous fluid.   Pleural
   fluid analysis consistent with exudative effusion.  Lasix gtt was
   ordered and then discontinued when analysis returned as exudate.
   PEEP down to 15, FiO2 60%.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2194-1-1**] 08:00 AM
   Cefipime - [**2194-1-1**] 10:00 AM
   Levofloxacin - [**2194-1-1**] 06:00 PM
   Infusions:
   Midazolam (Versed) - 6 mg/hour
   Heparin Sodium - 1,750 units/hour
   Fentanyl - 200 mcg/hour
   Norepinephrine - 0.05 mcg/Kg/min
   Other ICU medications:
   Furosemide (Lasix) - [**2194-1-1**] 10:15 AM
   Pantoprazole (Protonix) - [**2194-1-2**] 02:30 AM
   Heparin Sodium - [**2194-1-2**] 05:20 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2194-1-2**] 07:04 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.6
C (101.5
   Tcurrent: 38.6
C (101.5
   HR: 79 (74 - 86) bpm
   BP: 95/51(63) {95/44(59) - 170/80(105)} mmHg
   RR: 26 (22 - 26) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 64 Inch
    CVP: 15 (1 - 15)mmHg
   Total In:
                                                                  3,186 mL
                                                                    800 mL
   PO:
   TF:
                                                                  1,045 mL
                                                                    198 mL
   IVF:
                                                                  1,651 mL
                                                                    412 mL
   Blood products:
   Total out:
                                                                  3,145 mL
                                                                    345 mL
   Urine:
                                                                  2,345 mL
                                                                    345 mL
   NG:
   Stool:
   Drains:
                                                                    800 mL
   Balance:
                                                                     41 mL
                                                                    455 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 420 (420 - 420) mL
   RR (Set): 26
   RR (Spontaneous): 0
   PEEP: 15 cmH2O
   FiO2: 60%
   RSBI Deferred: PEEP > 10, FiO2 > 60%
   PIP: 30 cmH2O
   Plateau: 27 cmH2O
   SpO2: 96%
   ABG: 7.53/38/109/29/9
   Ve: 10.6 L/min
   PaO2 / FiO2: 182
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   589 K/uL
   7.7 g/dL
   110 mg/dL
   0.6 mg/dL
   29 mEq/L
   4.1 mEq/L
   12 mg/dL
   104 mEq/L
   139 mEq/L
   23.7 %
   13.6 K/uL
        [image002.jpg]
                            [**2193-12-30**]  03:09 PM
                            [**2193-12-31**]  02:47 AM
                            [**2193-12-31**]  03:00 AM
                            [**2193-12-31**]  04:54 PM
                            [**2193-12-31**]  05:09 PM
                            [**2194-1-1**]  04:21 AM
                            [**2194-1-1**]  04:37 AM
                            [**2194-1-1**]  05:20 PM
                            [**2194-1-2**]  04:19 AM
                            [**2194-1-2**]  04:32 AM
   WBC
   13.9
   17.2
   13.6
   Hct
   27.9
   25.7
   23.7
   Plt
   668
   635
   589
   Cr
   0.6
   0.6
   0.6
   0.6
   TCO2
   28
   32
   34
   34
   31
   33
   Glucose
   102
   106
   111
   120
   110
   Other labs: PT / PTT / INR:16.1/55.8/1.4, ALT / AST:32/41, Alk Phos / T
   Bili:78/0.5, Amylase / Lipase:/56, Differential-Neuts:79.0 %, Band:2.0
   %, Lymph:8.0 %, Mono:6.0 %, Eos:3.0 %, Lactic Acid:2.1 mmol/L, LDH:446
   IU/L, Ca++:9.4 mg/dL, Mg++:2.3 mg/dL, PO4:2.5 mg/dL
   Assessment and Plan
 DEEP VENOUS THROMBOSIS (DVT), UPPER EXTREMITY
 [**Last Name **] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 HYPERNATREMIA (HIGH SODIUM)
 ACUTE RESPIRATORY DISTRESS SYNDROME (ARDS, ACUTE LUNG INJURY, [**Doctor Last Name 2**])
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
 HYPOTENSION (NOT SHOCK)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
   33 yo F with a history of Tetralogy of Fallot s/p repair at age
   6months, s/p RVOT aneurysm repair in [**2182**], who is transferred from OSH
   with multilobar pneumonia, hypoxemic respiratory failure, and
   hypotension.
   #  Hypoxemic respiratory failure: Patient continues with hypoxemia, on
   PEEP 18 with FiO2 60%.  Likely [**3-18**] severe Left sided PNA which is now
   improving.  CT Chest done 2 days ago shows Right Lung with
   consilidations as well pleural effusion.
   - f/u BAL cultures, currently negative
   -Continue Vanc, Cefepime, Levoflox -day [**8-27**]
   - plan for right sided thoracentesis to evaluate for possible exudative
   effusion
   -hold lasix today pending [**Female First Name (un) 231**]
   - consider weaning to AC with FiO2 of 50%, PEEP 18
f/u ABG, will hold
   on weaning until after [**Female First Name (un) 231**]
   # Fevers:  Patient continues with fevers, unclear cause at this time.
   Will plan to perform [**Female First Name (un) 231**] today out of concern for infectious
   effusion.  If [**Female First Name (un) 231**] negative will have to consider replacing CVL.  If
   still febrile, then may be [**3-18**] drug fever.
   -- [**Female First Name (un) 231**] today
   -- f/[**Initials (NamePattern4) **] [**Last Name (NamePattern4) 231**] results
   # Right Brachial Clot:  - U/S of Upper extremities showed +brachial
   clot which seems to be spontatneous as she has no venous line on that
   arm.  Heparin started but stopped last night [**3-18**] presumed [**Female First Name (un) 231**]. CT
   negative for SVC clot
   - hold Heparin gtt, restart after [**Female First Name (un) 231**]
   # Hypotension: [**3-18**] septic physiology.  Patient currently on levophed
   -cont to wean levophed as tolerated
   -follow up BCxs, UA, UCx
   -monitor perfusion with CVP, lactate, UO, and MAPs
   # Tetrology of Fallot s/p repair, RVOT aneurysm s/p repair. Echo shows
   normal EF, physiology.
   -f/u cardiology recs
   -monitor on telemetry
   .
   # FEN: No IVFs / replete lytes prn /  cont TFs.
   # PPX: PPI, bowel regimen, restart heparin after [**Female First Name (un) 231**]
   # ACCESS: PIV, R IJ
placed at OSH.  A-line in right foot.
   # CODE:  FULL
   # CONTACT:  [**Name (NI) 443**] [**Name (NI) **] [**Telephone/Fax (1) 9263**]
   # DISPO: ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2193-12-25**] 03:02 PM
   Arterial Line - [**2193-12-29**] 06:43 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2194-01-03 07:15:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 MULTI LUMEN - START [**2194-1-3**] 12:25 AM
   VIA LEFT EJ
 FEVER - 101.1
F - [**2194-1-2**] 08:00 PM
   - Line by IR in EJ and c/b local hematoma. Heparin restarted overnight,
   if Hct and hematoma stable, plan for d/c of old triple lumen
   - PEEP decreased by 2 ro 13
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2194-1-2**] 09:08 PM
   Levofloxacin - [**2194-1-2**] 11:43 PM
   Cefipime - [**2194-1-2**] 11:44 PM
   Infusions:
   Norepinephrine - 0.28 mcg/Kg/min
   Furosemide (Lasix) - 3 mg/hour
   Heparin Sodium - 1,450 units/hour
   Midazolam (Versed) - 6 mg/hour
   Fentanyl - 200 mcg/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2194-1-2**] 10:50 AM
   Pantoprazole (Protonix) - [**2194-1-2**] 03:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2194-1-3**] 07:14 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.4
C (101.1
   Tcurrent: 37.4
C (99.4
   HR: 84 (70 - 89) bpm
   BP: 128/51(70) {91/43(57) - 144/102(105)} mmHg
   RR: 22 (0 - 26) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 64 Inch
    CVP: 5 (5 - 11)mmHg
   Total In:
                                                                  2,691 mL
                                                                    603 mL
   PO:
   TF:
                                                                    409 mL
                                                                     24 mL
   IVF:
                                                                  1,902 mL
                                                                    579 mL
   Blood products:
   Total out:
                                                                  3,240 mL
                                                                  1,580 mL
   Urine:
                                                                  3,240 mL
                                                                  1,580 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -549 mL
                                                                   -977 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 420 (420 - 420) mL
   RR (Set): 22
   RR (Spontaneous): 0
   PEEP: 13 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 29 cmH2O
   Plateau: 26 cmH2O
   SpO2: 100%
   ABG: 7.50/42/81.[**Numeric Identifier 8**]/27/7
   Ve: 10.4 L/min
   PaO2 / FiO2: 164
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: NG tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   592 K/uL
   7.8 g/dL
   100 mg/dL
   0.6 mg/dL
   27 mEq/L
   4.2 mEq/L
   11 mg/dL
   103 mEq/L
   139 mEq/L
   24.1 %
   12.6 K/uL
        [image002.jpg]
                            [**2193-12-31**]  05:09 PM
                            [**2194-1-1**]  04:21 AM
                            [**2194-1-1**]  04:37 AM
                            [**2194-1-1**]  05:20 PM
                            [**2194-1-2**]  04:19 AM
                            [**2194-1-2**]  04:32 AM
                            [**2194-1-2**]  10:44 AM
                            [**2194-1-2**]  07:10 PM
                            [**2194-1-3**]  12:34 AM
                            [**2194-1-3**]  05:19 AM
   WBC
   17.2
   13.6
   13.0
   12.6
   Hct
   25.7
   23.7
   24.2
   24.1
   Plt
   635
   589
   576
   592
   Cr
   0.6
   0.6
   0.5
   0.6
   TCO2
   34
   34
   31
   33
   34
   34
   Glucose
   120
   110
   100
   100
   Other labs: PT / PTT / INR:15.7/49.2/1.4, ALT / AST:32/41, Alk Phos / T
   Bili:78/0.5, Amylase / Lipase:/56, Differential-Neuts:79.0 %, Band:2.0
   %, Lymph:8.0 %, Mono:6.0 %, Eos:3.0 %, Lactic Acid:1.1 mmol/L, LDH:446
   IU/L, Ca++:9.6 mg/dL, Mg++:2.2 mg/dL, PO4:2.6 mg/dL
   Assessment and Plan
 DEEP VENOUS THROMBOSIS (DVT), UPPER EXTREMITY
 [**Last Name **] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 HYPERNATREMIA (HIGH SODIUM)
 ACUTE RESPIRATORY DISTRESS SYNDROME (ARDS, ACUTE LUNG INJURY, [**Doctor Last Name 2**])
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
 HYPOTENSION (NOT SHOCK)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
   33 yo F with a history of Tetralogy of Fallot s/p repair at age
   6months, s/p RVOT aneurysm repair in [**2182**], who is transferred from OSH
   with multilobar pneumonia, hypoxemic respiratory failure, and
   hypotension.
   #  Hypoxemic respiratory failure: Patient continues with hypoxemia, on
   PEEP 15 with FiO2 60%.  Likely [**3-18**] severe Left sided PNA which is now
   improving.  CT Chest done 2 days ago shows Right Lung with
   consilidations as well pleural effusion.  Pleural fluid exudative by
   Light
s criteria.
   - f/u BAL cultures, pleural cultures currently negative
   -Continue Vanc, Cefepime, Levoflox -day [**9-27**]
   -lasix gtt with goal -1L
   - consider weaning to AC with FiO2 of 55%, PEEP 15
Given respiratory
   and metabolic alkalosis, will decrease RR to 22
   # Fevers:  Patient continues with fevers, unclear cause at this time.
   [**Female First Name (un) **] on [**1-1**] was exudative.  Plan for new central line placement
   under IR.  Fevers could also be secondary to DVTs.  If still febrile,
   then may be [**3-18**] drug fever.
   -- new CVL today
   -- f/u culture data
   # Right Brachial Clot:  - U/S of Upper extremities showed +brachial
   clot which seems to be spontatneous as she has no venous line on that
   arm.  Heparin started but stopped last night [**3-18**] presumed [**Female First Name (un) 231**]. CT
   negative for SVC clot
   - hold Heparin gtt prior to CVL placement
   # Anemia: HCT 23.7. HCT on admission was 33.  Not actively bleeding.
   -guaiac stools
   -active T&S
   # Hypotension: [**3-18**] septic physiology.  Patient currently on levophed
   -cont to wean levophed as tolerated
   -follow up BCxs, UA, UCx
   -monitor perfusion with CVP, lactate, UO, and MAPs
   # Tetrology of Fallot s/p repair, RVOT aneurysm s/p repair. Echo shows
   normal EF, physiology.
   -monitor on telemetry
   .
   # FEN: No IVFs / replete lytes prn /  cont TFs.
   # PPX: PPI, bowel regimen, restart heparin after CVL
   # ACCESS: PIV, R IJ
placed at OSH.  A-line in right foot.
   # CODE:  FULL
   # CONTACT:  [**Name (NI) 443**] [**Name (NI) **] [**Telephone/Fax (1) 9263**]
   # DISPO: ICU
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2194-1-2**] 06:44 AM 10 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2193-12-29**] 06:43 PM
   Multi Lumen - [**2194-1-3**] 12:25 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2194-01-04 05:30:00 Physician Resident Progress Note
Chief Complaint: Respiratory failure
   24 Hour Events:
 BRONCHOSCOPY - At [**2194-1-3**] 02:51 PM
 MULTI LUMEN - STOP [**2194-1-3**] 03:00 PM
   R IJ d/c-ed
   Bronched again: nothing seen
   sent AM cortisol of the morning
   Weaned to Pressure support of 15/13 with FiO2 45%
   Levophed weaned off yesterday
   Started work up for antiphospholipid Ab: Anticardiolipin and lupus
   anticoagulant with AM labs
   Vomited x1
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2194-1-3**] 06:00 PM
   Vancomycin - [**2194-1-3**] 08:03 PM
   Cefipime - [**2194-1-3**] 10:18 PM
   Infusions:
   Furosemide (Lasix) - 4 mg/hour
   Heparin Sodium - 1,600 units/hour
   Midazolam (Versed) - 4.5 mg/hour
   Other ICU medications:
   Midazolam (Versed) - [**2194-1-3**] 02:53 PM
   Fentanyl - [**2194-1-3**] 02:53 PM
   Pantoprazole (Protonix) - [**2194-1-3**] 08:04 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2194-1-4**] 05:30 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38
C (100.4
   Tcurrent: 38
C (100.4
   HR: 80 (70 - 88) bpm
   BP: 111/55(70) {94/44(59) - 135/67(85)} mmHg
   RR: 28 (15 - 49) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 64 Inch
    CVP: 8 (5 - 11)mmHg
   Total In:
                                                                  2,999 mL
                                                                    360 mL
   PO:
   TF:
                                                                    431 mL
                                                                    101 mL
   IVF:
                                                                  2,568 mL
                                                                    258 mL
   Blood products:
   Total out:
                                                                  3,890 mL
                                                                    410 mL
   Urine:
                                                                  3,890 mL
                                                                    410 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -891 mL
                                                                    -50 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 420 (420 - 420) mL
   Vt (Spontaneous): 404 (404 - 435) mL
   PS : 15 cmH2O
   RR (Set): 22
   RR (Spontaneous): 0
   PEEP: 11 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 26 cmH2O
   Plateau: 23 cmH2O
   SpO2: 98%
   ABG: 7.53/36/90.[**Numeric Identifier 433**]/28/6
   Ve: 9.3 L/min
   PaO2 / FiO2: 225
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   576 K/uL
   7.5 g/dL
   102 mg/dL
   0.7 mg/dL
   28 mEq/L
   4.2 mEq/L
   13 mg/dL
   100 mEq/L
   138 mEq/L
   24.3 %
   13.6 K/uL
        [image002.jpg]
                            [**2194-1-2**]  10:44 AM
                            [**2194-1-2**]  07:10 PM
                            [**2194-1-3**]  12:34 AM
                            [**2194-1-3**]  05:19 AM
                            [**2194-1-3**]  01:14 PM
                            [**2194-1-3**]  01:40 PM
                            [**2194-1-3**]  05:38 PM
                            [**2194-1-3**]  09:02 PM
                            [**2194-1-4**]  04:19 AM
                            [**2194-1-4**]  04:31 AM
   WBC
   13.0
   12.6
   13.6
   Hct
   24.2
   24.1
   25.1
   24.3
   Plt
   576
   592
   576
   Cr
   0.5
   0.6
   0.7
   0.7
   TCO2
   34
   34
   35
   36
   37
   31
   Glucose
   100
   100
   118
   102
   Other labs: PT / PTT / INR:16.3/62.8/1.4, ALT / AST:25/35, Alk Phos / T
   Bili:65/0.3, Amylase / Lipase:/56, Differential-Neuts:79.0 %, Band:2.0
   %, Lymph:8.0 %, Mono:6.0 %, Eos:3.0 %, Lactic Acid:1.0 mmol/L, LDH:446
   IU/L, Ca++:10.6 mg/dL, Mg++:2.3 mg/dL, PO4:3.0 mg/dL
   Assessment and Plan
 DEEP VENOUS THROMBOSIS (DVT), UPPER EXTREMITY
 [**Last Name **] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 HYPERNATREMIA (HIGH SODIUM)
 ACUTE RESPIRATORY DISTRESS SYNDROME (ARDS, ACUTE LUNG INJURY, [**Doctor Last Name 2**])
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
 HYPOTENSION (NOT SHOCK)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
   33 yo F with a history of Tetralogy of Fallot s/p repair at age
   6months, s/p RVOT aneurysm repair in [**2182**], who is transferred from OSH
   with multilobar pneumonia, hypoxemic respiratory failure, and
   hypotension.
   #  Hypoxemic respiratory failure: Patient continues with hypoxemia, on
   PEEP 13 with FiO2 50%.  Likely [**3-18**] severe Left sided PNA which is now
   improving.  CT Chest done 2 days ago shows Right Lung with
   consilidations as well pleural effusion.  Pleural fluid exudative by
   Light
s criteria.
   - f/u BAL cultures, pleural cultures currently negative
   -Continue Vanc, Cefepime, Levoflox -day [**10-28**]
   -lasix gtt with goal -1L
   - consider weaning to AC with FiO2 of 45%, PEEP 13
   .
   # Fevers:  Patient continues with fevers, unclear cause at this time.
   [**Female First Name (un) **] on [**1-1**] was exudative.  New L EJ placed on [**1-2**].   Fevers could
   also be secondary to DVTs.  If still febrile, then may be [**3-18**] drug
   fever.
   -- d/c R IJ today
   -- f/u culture data
   # Right Brachial Clot:  - U/S of Upper extremities showed +brachial
   clot which seems to be spontatneous as she has no venous line on that
   arm.  Heparin gtt started. CT negative for SVC clot
   - restart Heparin gtt
   # Anemia: HCT 23.7. HCT on admission was 33.  Not actively bleeding.
   -guaiac stools
   -active T&S
   # Hypotension: [**3-18**] septic physiology.  Patient currently on levophed
   -cont to wean levophed as tolerated
   -follow up BCxs, UA, UCx
   -monitor perfusion with CVP, lactate, UO, and MAPs
   # Tetrology of Fallot s/p repair, RVOT aneurysm s/p repair. Echo shows
   normal EF, physiology.
   -monitor on telemetry
   .
   # FEN: No IVFs / replete lytes prn /  cont TFs.
   # PPX: PPI, bowel regimen, heparin gtt
   # ACCESS: PIV, R IJ
placed at OSH, will remove today.  A-line in right
   foot. L EJ placed [**1-2**].
   # CODE:  FULL
   # CONTACT:  [**Name (NI) 443**] [**Name (NI) **] [**Telephone/Fax (1) 9263**]
   # DISPO: ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2193-12-29**] 06:43 PM
   Multi Lumen - [**2194-1-3**] 12:25 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2194-01-05 07:21:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   PEEP decreased to 9 overnight.
   Lasix continued, UOP even at midnight.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2194-1-4**] 06:00 PM
   Vancomycin - [**2194-1-4**] 08:12 PM
   Cefipime - [**2194-1-4**] 10:05 PM
   Infusions:
   Midazolam (Versed) - 3.6 mg/hour
   Heparin Sodium - 1,600 units/hour
   Fentanyl - 128 mcg/hour
   Furosemide (Lasix) - 5 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2194-1-5**] 06:05 AM
   Midazolam (Versed) - [**2194-1-5**] 06:14 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2194-1-5**] 07:21 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 37.2
C (99
   HR: 84 (71 - 91) bpm
   BP: 142/63(85) {97/44(59) - 158/80(104)} mmHg
   RR: 23 (23 - 47) insp/min
   SpO2: 91%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 64 Inch
    CVP: 12 (4 - 12)mmHg
   Total In:
                                                                  2,332 mL
                                                                    349 mL
   PO:
   TF:
                                                                    547 mL
   IVF:
                                                                  1,785 mL
                                                                    349 mL
   Blood products:
   Total out:
                                                                  2,280 mL
                                                                    770 mL
   Urine:
                                                                  2,280 mL
                                                                    770 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     52 mL
                                                                   -421 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 420 (420 - 420) mL
   Vt (Spontaneous): 369 (369 - 448) mL
   PS : 15 cmH2O
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 9 cmH2O
   FiO2: 40%
   RSBI Deferred: Agitated
   PIP: 26 cmH2O
   SpO2: 91%
   ABG: ///31/
   Ve: 6.5 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   562 K/uL
   7.5 g/dL
   99 mg/dL
   0.9 mg/dL
   31 mEq/L
   4.3 mEq/L
   13 mg/dL
   98 mEq/L
   137 mEq/L
   22.9 %
   14.2 K/uL
        [image002.jpg]
                            [**2194-1-2**]  07:10 PM
                            [**2194-1-3**]  12:34 AM
                            [**2194-1-3**]  05:19 AM
                            [**2194-1-3**]  01:14 PM
                            [**2194-1-3**]  01:40 PM
                            [**2194-1-3**]  05:38 PM
                            [**2194-1-3**]  09:02 PM
                            [**2194-1-4**]  04:19 AM
                            [**2194-1-4**]  04:31 AM
                            [**2194-1-5**]  04:28 AM
   WBC
   13.0
   12.6
   13.6
   14.2
   Hct
   24.2
   24.1
   25.1
   24.3
   22.9
   Plt
   576
   592
   576
   562
   Cr
   0.5
   0.6
   0.7
   0.7
   0.9
   TCO2
   34
   35
   36
   37
   31
   Glucose
   100
   100
   118
   102
   99
   Other labs: PT / PTT / INR:16.5/64.0/1.5, ALT / AST:25/35, Alk Phos / T
   Bili:65/0.3, Amylase / Lipase:/56, Differential-Neuts:79.0 %, Band:2.0
   %, Lymph:8.0 %, Mono:6.0 %, Eos:3.0 %, Lactic Acid:1.0 mmol/L, LDH:446
   IU/L, Ca++:10.7 mg/dL, Mg++:2.4 mg/dL, PO4:3.8 mg/dL
   Assessment and Plan
 NAUSEA / VOMITING
 DEEP VENOUS THROMBOSIS (DVT), UPPER EXTREMITY
 [**Last Name **] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 HYPERNATREMIA (HIGH SODIUM)
 ACUTE RESPIRATORY DISTRESS SYNDROME (ARDS, ACUTE LUNG INJURY, [**Doctor Last Name 2**])
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
 HYPOTENSION (NOT SHOCK)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
   33 yo F with a history of Tetralogy of Fallot s/p repair at age
   6months, s/p RVOT aneurysm repair in [**2182**], who is transferred from OSH
   with multilobar pneumonia, hypoxemic respiratory failure, and
   hypotension.
   #  Hypoxemic respiratory failure: improving. Currently on CMV with FiO2
   of 40%.  Likely [**3-18**] severe Left sided PNA which is now improving.
   Prior CT Chest shows Right Lung with consilidations as well pleural
   effusion.  Pleural fluid exudative by Light
s criteria.
   - f/u BAL cultures, pleural cultures currently negative
   -Continue Vanc, Cefepime, Levoflox -day [**12-28**]
   -lasix gtt with goal CVP of [**5-19**]
   - consider weaning to PaO2 of 60 as patient tolerates
   -  Switch to PSV with goal of [**6-18**] and SBT tomorrow, mental status seems
   adeqaute for extubation.
   - advance et tube 2cm
   .
   # Fevers:  Patient afebrilex 36hrs, previous fevers likely secondary to
   pneumonia.  [**Female First Name (un) **] on [**1-1**] was exudative.  New L EJ placed on [**1-2**].
   Fevers could also be secondary to DVTs.  If still febrile, then may be
   [**3-18**] drug fever.
   -- f/u culture data
   # Right Brachial Clot:  - U/S of Upper extremities showed +brachial
   clot which seems to be spontatneous as she has no venous line on that
   arm.  Heparin gtt started. CT negative for SVC clot
   -  Heparin gtt
   # Anemia: HCT 24.3. HCT on admission was 33.  Not actively bleeding.
   -guaiac stools
   -active T&S
   - [**Hospital1 **] hct, goal hct=21
   # Hypotension: resolved.  [**3-18**] septic physiology.  Levophed weaned off.
   # Tetrology of Fallot s/p repair, RVOT aneurysm s/p repair. Echo shows
   normal EF, physiology.
   -monitor on telemetry
   .
   # FEN: No IVFs / replete lytes prn /  cont TFs, PT consult.
   # PPX: PPI, bowel regimen, heparin gtt
   # ACCESS: PIV, A-line in right foot. L EJ placed [**1-2**].
   # CODE:  FULL
   # CONTACT:  [**Name (NI) 443**] [**Name (NI) **] [**Telephone/Fax (1) 9263**]
   # DISPO: ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2193-12-29**] 06:43 PM
   Multi Lumen - [**2194-1-3**] 12:25 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2194-01-06 07:50:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -Able to wean PEEP over the course of the day, PSV had to be increased
   overnight
   -Awake & interactive
   -Fentanyl patch started
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2194-1-5**] 05:12 PM
   Vancomycin - [**2194-1-5**] 08:00 PM
   Cefipime - [**2194-1-5**] 10:00 PM
   Infusions:
   Fentanyl - 75 mcg/hour
   Midazolam (Versed) - 2 mg/hour
   Heparin Sodium - 1,750 units/hour
   Furosemide (Lasix) - 4 mg/hour
   Other ICU medications:
   Midazolam (Versed) - [**2194-1-5**] 04:01 PM
   Pantoprazole (Protonix) - [**2194-1-5**] 08:00 PM
   Heparin Sodium - [**2194-1-6**] 06:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2194-1-6**] 07:49 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 37.2
C (98.9
   HR: 77 (72 - 87) bpm
   BP: 108/52(67) {95/44(59) - 162/71(95)} mmHg
   RR: 23 (17 - 40) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 64 Inch
    CVP: 8 (7 - 8)mmHg
   Total In:
                                                                  1,830 mL
                                                                    389 mL
   PO:
   TF:
   IVF:
                                                                  1,750 mL
                                                                    389 mL
   Blood products:
   Total out:
                                                                  2,485 mL
                                                                    890 mL
   Urine:
                                                                  2,485 mL
                                                                    890 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -655 mL
                                                                   -501 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 420 (420 - 420) mL
   Vt (Spontaneous): 295 (4 - 390) mL
   PS : 5 cmH2O
   RR (Set): 14
   RR (Spontaneous): 28
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 113
   PIP: 10 cmH2O
   SpO2: 96%
   ABG: 7.44/53/81.[**Numeric Identifier 8**]/34/9
   Ve: 8.7 L/min
   PaO2 / FiO2: 205
   Physical Examination
   General Appearance: Well nourished
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   712 K/uL
   7.6 g/dL
   95 mg/dL
   0.9 mg/dL
   34 mEq/L
   4.0 mEq/L
   12 mg/dL
   96 mEq/L
   138 mEq/L
   22.9 %
   12.6 K/uL
        [image002.jpg]
                            [**2194-1-3**]  09:02 PM
                            [**2194-1-4**]  04:19 AM
                            [**2194-1-4**]  04:31 AM
                            [**2194-1-5**]  04:28 AM
                            [**2194-1-5**]  12:01 PM
                            [**2194-1-5**]  12:19 PM
                            [**2194-1-5**]  06:45 PM
                            [**2194-1-6**]  01:00 AM
                            [**2194-1-6**]  03:42 AM
                            [**2194-1-6**]  04:51 AM
   WBC
   13.6
   14.2
   12.6
   Hct
   24.3
   22.9
   22.2
   22.9
   Plt
   576
   562
   712
   Cr
   0.7
   0.9
   0.9
   TCO2
   37
   31
   35
   36
   37
   37
   Glucose
   102
   99
   95
   Other labs: PT / PTT / INR:16.8/56.0/1.5, ALT / AST:25/35, Alk Phos / T
   Bili:65/0.3, Amylase / Lipase:/56, Differential-Neuts:79.0 %, Band:2.0
   %, Lymph:8.0 %, Mono:6.0 %, Eos:3.0 %, Lactic Acid:1.0 mmol/L, LDH:446
   IU/L, Ca++:11.1 mg/dL, Mg++:2.5 mg/dL, PO4:3.4 mg/dL
   Assessment and Plan
 NAUSEA / VOMITING
 DEEP VENOUS THROMBOSIS (DVT), UPPER EXTREMITY
 [**Last Name **] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 HYPERNATREMIA (HIGH SODIUM)
 ACUTE RESPIRATORY DISTRESS SYNDROME (ARDS, ACUTE LUNG INJURY, [**Doctor Last Name 2**])
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
 HYPOTENSION (NOT SHOCK)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
   33 yo F with a history of Tetralogy of Fallot s/p repair at age
   6months, s/p RVOT aneurysm repair in [**2182**], who is transferred from OSH
   with multilobar pneumonia, hypoxemic respiratory failure, and
   hypotension.
   #  Hypoxemic respiratory failure: improving. Currently on CMV with FiO2
   of 40%.  Likely [**3-18**] severe Left sided PNA which is now improving.
   Prior CT Chest shows Right Lung with consilidations as well pleural
   effusion.  Pleural fluid exudative by Light
s criteria.
   - f/u BAL cultures, pleural cultures currently negative
   -Continue Vanc, Cefepime, Levoflox -day [**12-28**]
   -lasix gtt with goal CVP of [**5-19**]
   - consider weaning to PaO2 of 60 as patient tolerates
   -  Switch to PSV with goal of [**6-18**] and SBT tomorrow, mental status seems
   adeqaute for extubation.
   - advance et tube 2cm
   .
   # Fevers:  Patient afebrilex 36hrs, previous fevers likely secondary to
   pneumonia.  [**Female First Name (un) **] on [**1-1**] was exudative.  New L EJ placed on [**1-2**].
   Fevers could also be secondary to DVTs.  If still febrile, then may be
   [**3-18**] drug fever.
   -- f/u culture data
   # Right Brachial Clot:  - U/S of Upper extremities showed +brachial
   clot which seems to be spontatneous as she has no venous line on that
   arm.  Heparin gtt started. CT negative for SVC clot
   -  Heparin gtt
   # Anemia: HCT 24.3. HCT on admission was 33.  Not actively bleeding.
   -guaiac stools
   -active T&S
   - [**Hospital1 **] hct, goal hct=21
   # Hypotension: resolved.  [**3-18**] septic physiology.  Levophed weaned off.
   # Tetrology of Fallot s/p repair, RVOT aneurysm s/p repair. Echo shows
   normal EF, physiology.
   -monitor on telemetry
   .
   # FEN: No IVFs / replete lytes prn /  cont TFs, PT consult.
   # PPX: PPI, bowel regimen, heparin gtt
   # ACCESS: PIV, A-line in right foot. L EJ placed [**1-2**].
   # CODE:  FULL
   # CONTACT:  [**Name (NI) 443**] [**Name (NI) **] [**Telephone/Fax (1) 9263**]
   # DISPO: ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2193-12-29**] 06:43 PM
   Multi Lumen - [**2194-1-3**] 12:25 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2194-01-07 05:37:00 Physician Resident Progress Note
Chief Complaint: Respiratory failure
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2194-1-6**] 09:27 AM
 ARTERIAL LINE - STOP [**2194-1-6**] 05:15 PM
   rt foot
   Extubated successfully
   Started diomox
   d/c-ed lasix gtt
   Speech and swallow consulted
   nauseated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2194-1-5**] 05:12 PM
   Vancomycin - [**2194-1-6**] 08:00 PM
   Cefipime - [**2194-1-6**] 10:00 PM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2194-1-6**] 08:00 AM
   Heparin Sodium - [**2194-1-6**] 02:00 PM
   Lorazepam (Ativan) - [**2194-1-6**] 09:30 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2194-1-7**] 05:36 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 36.8
C (98.3
   HR: 91 (76 - 96) bpm
   BP: 129/57(74) {97/54(70) - 135/67(77)} mmHg
   RR: 31 (17 - 33) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 64 Inch
    CVP: 11 (2 - 11)mmHg
   Total In:
                                                                  1,450 mL
                                                                    167 mL
   PO:
   TF:
   IVF:
                                                                  1,450 mL
                                                                    167 mL
   Blood products:
   Total out:
                                                                  2,500 mL
                                                                    290 mL
   Urine:
                                                                  2,290 mL
                                                                    290 mL
   NG:
                                                                    210 mL
   Stool:
   Drains:
   Balance:
                                                                 -1,050 mL
                                                                   -123 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: Standby
   Vt (Spontaneous): 285 (285 - 285) mL
   PS : 15 cmH2O
   RR (Spontaneous): 27
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 78
   PIP: 11 cmH2O
   SpO2: 95%
   ABG: ///22/
   Ve: 6.9 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   843 K/uL
   8.3 g/dL
   89 mg/dL
   1.0 mg/dL
   22 mEq/L
   3.1 mEq/L
   12 mg/dL
   120 mEq/L
   141 mEq/L
   28.0 %
   13.8 K/uL
        [image002.jpg]
                            [**2194-1-4**]  04:31 AM
                            [**2194-1-5**]  04:28 AM
                            [**2194-1-5**]  12:01 PM
                            [**2194-1-5**]  12:19 PM
                            [**2194-1-5**]  06:45 PM
                            [**2194-1-6**]  01:00 AM
                            [**2194-1-6**]  03:42 AM
                            [**2194-1-6**]  04:51 AM
                            [**2194-1-6**]  04:12 PM
                            [**2194-1-7**]  04:03 AM
   WBC
   14.2
   12.6
   13.8
   Hct
   22.9
   22.2
   22.9
   28.0
   Plt
   [**Telephone/Fax (3) 9467**]
   Cr
   0.9
   0.9
   0.9
   1.0
   TCO2
   31
   35
   36
   37
   37
   Glucose
   99
   95
   107
   89
   Other labs: PT / PTT / INR:17.5/78.5/1.6, ALT / AST:25/35, Alk Phos / T
   Bili:65/0.3, Amylase / Lipase:/56, Differential-Neuts:79.0 %, Band:2.0
   %, Lymph:8.0 %, Mono:6.0 %, Eos:3.0 %, Lactic Acid:1.0 mmol/L, LDH:446
   IU/L, Ca++:9.7 mg/dL, Mg++:2.2 mg/dL, PO4:2.2 mg/dL
   Assessment and Plan
 NAUSEA / VOMITING
 DEEP VENOUS THROMBOSIS (DVT), UPPER EXTREMITY
 [**Last Name **] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 HYPERNATREMIA (HIGH SODIUM)
 ACUTE RESPIRATORY DISTRESS SYNDROME (ARDS, ACUTE LUNG INJURY, [**Doctor Last Name 2**])
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
 HYPOTENSION (NOT SHOCK)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
   33 yo F with a history of Tetralogy of Fallot s/p repair at age
   6months, s/p RVOT aneurysm repair in [**2182**], who is transferred from OSH
   with multilobar pneumonia, hypoxemic respiratory failure, and
   hypotension.
   #  Hypoxemic respiratory failure: improving. Currently tolerating PS
   [**6-18**].  Likely [**3-18**] severe Left sided PNA which is now improving.  Prior
   CT Chest shows Right Lung with consilidations as well pleural
   effusion.  Pleural fluid exudative by Light
s criteria.
   - f/u BAL cultures, pleural cultures currently negative
   -Continue Vanc, Cefepime, Levoflox -day [**1-27**]
   -d/c lasix gtt
   -start diomox for diuresis, to correct metabolic alkalosis
   - extubate today
   .
   # Fevers:  resolved.  Patient afebrilex for over 48 hrs, previous
   fevers likely secondary to pneumonia.  [**Female First Name (un) **] on [**1-1**] was exudative.
   New L EJ placed on [**1-2**]
   -- f/u culture data
   # Right Brachial Clot:  - U/S of Upper extremities showed +brachial
   clot which seems to be spontatneous as she has no venous line on that
   arm.  Heparin gtt started. CT negative for SVC clot
   -  continue Heparin gtt
   # Anemia: HCT 22 today. HCT on admission was 33.  Not actively
   bleeding.
   -guaiac stools: negative so far
   -active T&S
   - [**Hospital1 **] hct, goal hct=21
   # Hypotension: resolved.
   # Tetrology of Fallot s/p repair, RVOT aneurysm s/p repair. Echo shows
   normal EF, physiology.
   -monitor on telemetry
   .
   # FEN: No IVFs / replete lytes prn /  attempt regular diet
   # PPX: PPI, bowel regimen, heparin gtt
   # ACCESS: PIV, A-line in right foot
will d/c if successfully
   extubates. L EJ placed [**1-2**].
   # CODE:  FULL
   # CONTACT:  [**Name (NI) 443**] [**Name (NI) **] [**Telephone/Fax (1) 9263**]
   # DISPO: ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2194-1-3**] 12:25 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: